### PR TITLE
Semilattices and definitional duality

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

This PR is the revival of #464 (also a part of #697) based on MC2.

Closes: #464

##### Overlay PRs

- math-comp/multinomials#88
- math-comp/analysis#1189
- arthuraa/deriving#28

##### Things done/to do

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [x] profiling (before/after this PR)

##### Other TODOs (to be done in separate PRs)

- Improve the performance of `HB.saturate`: math-comp/hierarchy-builder#414
- Split `order.v` into sub-libraries
- Adapt the `subType`, morphism, and closedness predicate hierarchies to new structures
- Fix some pointwise and lexicographic order instances so that they commute with the dual construction
- Add more lemmas about complemented lattices (the `CDistrLatticeTheory` and `CTDistrLatticeTheory` sections)

##### Compatibility with MathComp 1.X

- ~[ ] I added the label `TODO: MC-1 port` to make sure someone ports this PR to
      the `mathcomp-1` branch **or** I already opened an issue or PR (please cross reference).~

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) and put a milestone if possible.

### CODE REVIEW

File: mathcomp/ssreflect/order.v [hunk 1]
```diff
@@ -1065,74 +1065,46 @@ Reserved Notation "'{' 'tblmorphism' U '->' V '}'"
...
 
-HB.mixin Record isPOrder (d : unit) T of Equality T := {
+Set Primitive Projections.
+Record disp_t := Disp {d1 : unit; d2 : unit}.
+Unset Primitive Projections.
+
+Definition disp_tt := {| d1 := tt; d2 := tt |}.
+
+#[key="T"] (* TODO: primitive *)
+HB.mixin Record isDuallyPOrder (d : disp_t) T of Equality T := {
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v:1075]: Because of a bug in HB (math-comp/hierarchy-builder#386), we cannot turn mixins into primitive records for the moment. We will investigate it soon.

File: mathcomp/ssreflect/order.v [hunk 2]
```diff
@@ -1808,15 +1843,129 @@ Notation "\meet^d_ ( i 'in' A ) F" :=
...
+Proof. by []. Qed.
+
+HB.instance Definition _ d (T : meetSemilatticeType d) :=
+  POrder_isJoinSemilattice.Build (dual_display d) T^d meetC meetA leEmeet.
+
+Lemma joinEdual d (T : meetSemilatticeType d) (x y : T) :
+  ((x : T^d) `|^d` y) = (x `&` y).
+Proof. by []. Qed.
+
+HB.saturate.
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v:1894]: Another bug in HB (math-comp/hierarchy-builder#257) prevents us from doing this saturation by hand (as I commented out the code doing that below). `HB.saturate` is a bit slow but acceptable as a workaround.

File: mathcomp/ssreflect/order.v [hunk 3]
```diff
@@ -1326,54 +1303,66 @@ Coercion le_of_leif : leif >-> is_true.
...
   meet : T -> T -> T;
-  join : T -> T -> T;
   meetC : commutative meet;
-  joinC : commutative join;
   meetA : associative meet;
-  joinA : associative join;
-  joinKI : forall y x, meet x (join x y) = x;
-  meetKU : forall y x, join x (meet x y) = x;
   leEmeet : forall x y, (x <= y) = (meet x y == x);
 }.
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v:1312]: It would be possible to replace this mixin with:
```coq
  meet : T -> T -> T;
  meetP : forall x y z, (x <= meet y z) = (x <= y) && (x <= z);
```
See `POrder_Meet_isSemilattice`.

File: mathcomp/ssreflect/order.v (hunk 1 above)
Comment (pi8027) [reply mathcomp/ssreflect/order.v]: The bug is still there, but I found a workaround (re-exporting lemmas from theory modules).

File: mathcomp/ssreflect/order.v (hunk 3 above)
Comment (pi8027) [reply mathcomp/ssreflect/order.v]: Done.

File: mathcomp/ssreflect/order.v [hunk 4]
```diff
@@ -3725,10 +4258,56 @@ Arguments bigmax_eq_arg {disp T I} x j.
 Arguments eq_bigmin {disp T I x} j.
 Arguments eq_bigmax {disp T I x} j.
 
+(* FIXME: lemmas in the following section should hold for any porderType *)
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v:4261]: These lemmas introduced by #738 should hold for any `porderType`, not `orderType`. cc: @proux01

File: mathcomp/ssreflect/order.v [hunk 5]
```diff
@@ -7359,23 +8528,28 @@ Import DefaultSeqProdOrder.
...
 End Basics.
 
 Section POrder.
-Implicit Types (T : porderType disp).
+Implicit Types (n : nat) (T : porderType disp).
 
-#[export] HB.instance Definition _ n T := SubChoice.on (n.-tuple T).
+(* FIXME: this instance should be dualizable, but then we should not depend   *)
+(* on the subtype mechanism, because the pointwise order on seq cannot be the *)
+(* dual of itself.                                                            *)
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v:8552]: The pointwise order on tuples and the dual construction should commute.

File: mathcomp/ssreflect/order.v [hunk 6]
```diff
@@ -6904,72 +7977,132 @@ Lemma ltEprodlexi x y :
...
+
+Fact total : total (<=%O : rel (T1 * T2)).
+Proof.
+by move=> x y; rewrite !leEprodlexi; case: ltgtP => //= _; exact: le_total.
+Qed.
 
-Lemma topEprodlexi : \top = (\top, \top) :> T * T'. Proof. by []. Qed.
+(* FIXME: In order to dualize this instance, we have to dualize the           *)
+(* [POrder_isTotal] factory. However, [min] and max are not definitional dual *)
+(* (while [min x y] and [max y x] are).                                       *)
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v:8051]: The lexicographic order on products and the dual construction should commute.

File: mathcomp/ssreflect/order.v [hunk 7]
```diff
@@ -6485,170 +7271,408 @@ rewrite /le => y x z /andP [] hxy ? /andP [] /(le_trans hxy) ->.
...
+End FinOrder.
+(* /FIXME *)
 
 Module Exports.
 HB.reexport ProdOrder.
 Notation "T *prod[ d ] T'" := (type d T T')
   (at level 70, d at next level, format "T  *prod[ d ]  T'") : type_scope.
-Notation "T *p T'" := (type prod_display T T')
+Notation "T *p T'" := (type (prod_display _ _) T T')
   (at level 70, format "T  *p  T'") : type_scope.
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v:7676]: I changed `prod_display` and `lexi_display` to take parameters, but I couldn't find a way to fill these placeholders automatically.

**Comment by pi8027** [comment]
@affeldt-aist @proux01 Would you mind taking a look at the header documentation of `order.v`? (IIRC, Reynald was complaining about it, particularly regarding displays.)

File: mathcomp/ssreflect/order.v (hunk 7 above)
Comment (pi8027) [reply mathcomp/ssreflect/order.v]: Fixed!

**Comment by proux01** [comment]
@pi8027 what are your plans regarding potential backward compatibility here? Will we need to impose a breaking change to the (few) users that were using displays (according to CI, deriving, maybe extructures, multinomials and analysis, maybe coqeal and apery).

**Comment by pi8027** [comment]
@proux01 Implementing a compatibility layer on the users' side seems possible. See: math-comp/multinomials#88

File: mathcomp/ssreflect/order.v [hunk 8]
```diff
@@ -31,59 +31,123 @@ From mathcomp Require Import finset.
...
-(* is associated to the display dvd_display. Instantiating d with tt or an    *)
-(* unknown display will lead to a default display for notations. See below    *)
-(* for more details about displays.                                           *)
+(* "displays". Each generic interface for ordered types has, as its first     *)
+(* argument, a display of type Order.disp_t to control the printing of        *)
+(* notations. For example, when m and n are of type natdvd (an alias of nat), *)
+(* (Order.le m n) is displayed m %| n; natdvd is associated to the display    *)
+(* dvd_display. Instantiating d with Disp tt tt or an unknown display will    *)
+(* lead to a default display for notations. See below for more details about  *)
+(* displays.                                                                  *)
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:40]: Maybe this should insist more on the fact that (due to limitations of canonical structures), displays are only a *printing* thing, whereas *parsing* is only based on types. For instance, `forall (x y : nat), (x %| y)%O` won't parse, one need `forall (x y : nat), ((x : natdvd) %| y)%O` that is in fact just `forall (x y : nat) ((x : natdvd) <= y)%O` or `forall (x y : nat), (x <= u :> natdvd)%O`. @affeldt-aist would a comment along those lines help?

**Comment by pi8027** [comment]
What is the right way to rename a mixin and deprecate the old name? I wanted to do something like:
```coq
#[deprecated(since="mathcomp 2.3.0", note="Use BDistrLattice_hasSectionalComplement.")]
Notation hasRelativeComplement := BDistrLattice_hasSectionalComplement.
```
but the result is:
```
Error: Abbreviation is not applied enough.
```

**Comment by proux01** [comment]
Maybe something like https://github.com/math-comp/math-comp/blob/cdce9e154b5aa4c84a0091ef00f369d53e7f6eee/mathcomp/algebra/ssrnum.v#L5934-L5938

**Comment by pi8027** [comment]
Thanks, that seems to work.

**Comment by pi8027** [comment]
I don't remember how to write overlays. Where is it documented?

**Comment by proux01** [comment]
There is some doc there: https://github.com/math-comp/math-comp/blob/master/README-CI-Nix.md but it seems to lack the most important sentence: most of the time it's just a matter of adding a line like
```
multinomials.override.version = "github_login:branch";
```
 to `common-bundles` in .nix/config.nix

**Comment by proux01** [comment]
But I see you found it already.

**Comment by pi8027** [comment]
The problem was that I couldn't find the right lines to insert these new lines in `config.nix`, just because I'm not familiar with the syntax of this configuration file. A few comment lines in `config.nix` indicating where to insert them would help.

**Comment by proux01** [comment]
Indeed, c.f., https://github.com/math-comp/math-comp/pull/1183

**Comment by pi8027** [comment]
The error in graph-theory is an orthogonal issue: coq-community/graph-theory#38

**Comment by pi8027** [comment]
A few TODOs are still left but ready for review.

File: mathcomp/ssreflect/order.v [hunk 9]
```diff
@@ -6485,170 +7304,412 @@ rewrite /le => y x z /andP [] hxy ? /andP [] /(le_trans hxy) ->.
...
+Lemma topEprod : \top = (\top, \top) :> T1 * T2. Proof. by []. Qed.
+
+End TPOrder.
+
+(* FIXME *)
+#[export]
+HB.instance Definition _ (disp1 disp2 disp3 : disp_t)
+  (T1 : tbPOrderType disp1) (T2 : tbPOrderType disp2) :=
+  POrder.on (type disp3 T1 T2).
+(* /FIXME *)
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v:7393]: I should replace this kind of instance with `HB.saturate` but I expect it to be quite slow for the moment.

File: mathcomp/ssreflect/order.v [hunk 10]
```diff
@@ -6485,170 +7304,412 @@ rewrite /le => y x z /andP [] hxy ? /andP [] /(le_trans hxy) ->.
...
+  POrder.on (type disp3 T1 T2).
+#[export]
+HB.instance Definition _ (disp1 disp2 disp3 : disp_t)
+  (T1 : tDistrLatticeType disp1) (T2 : tDistrLatticeType disp2) :=
+  POrder.on (type disp3 T1 T2).
+#[export]
+HB.instance Definition _ (disp1 disp2 disp3 : disp_t)
+  (T1 : tbDistrLatticeType disp1) (T2 : tbDistrLatticeType disp2) :=
+  POrder.on (type disp3 T1 T2).
+(* /FIXME *)
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v:7530]: `HB.saturate type.` takes forever here.

File: mathcomp/ssreflect/order.v (hunk 8 above)
Comment (pi8027) [reply mathcomp/ssreflect/order.v:40]: I agree, but my main concern in header documentation was that a few things were defined twice (introduced in a44f98268c823df03ed8a581091e8e942574a1aa). I'm not going to improve this part further unless someone comes up with a diff.

Comment (proux01) [reply mathcomp/ssreflect/order.v:40]: Not sure to follow, what kind of diff do you expect? Indeed, there seems to be some redundancy, why not removing the superfluous second instance?

File: mathcomp/ssreflect/order.v [hunk 11]
```diff
@@ -192,78 +256,92 @@ From mathcomp Require Import finset.
...
-(*          f \min g <-> the function x |-> Order.min (f x) (g x);            *)
-(*                       f \min g simplifies on application                   *)
-(*          f \max g <-> the function x |-> Order.max (f x) (g x);            *)
-(*                       f \max g simplifies on application                   *)
+(* * Order relations and operations:                                          *)
+(* Each overloaded relation or operation on order structures has a display    *)
+(* (ranged over by d of type Order.disp_t) as the first argument, an instance *)
+(* of the minimal structure it operates on as the second argument, and then   *)
+(* operands. Here is the exhaustive list of all such operations together with *)
+(* their default notation (defined in order_scope unless noted otherwise).    *)
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v:264]: @proux01 @affeldt-aist I mean, I wanted to ask you whether the description of notations and operators provided here (below) is good enough or not.

Comment (proux01) [reply mathcomp/ssreflect/order.v:264]: As you point out it's redeundant. The paragraph above (the one you comment) is not very readable though, not sure it brings much.

File: .nix/config.nix [hunk 12]
```diff
@@ -70,6 +70,11 @@ with builtins; with (import <nixpkgs> {}).lib;
          #   for a complete list of Coq packages available in Nix
          # * <github_login>:<branch> is such that this will use the branch <branch>
          #   from https://github.com/<github_login>/<repository>
+         hierarchy-builder.override.version = "math-comp:saturate-filter";
```
Comment (proux01) [inline .nix/config.nix:73]: @pi8027 are we waiting for some new release of HB?

File: mathcomp/ssreflect/order.v [hunk 13]
```diff
@@ -1667,12 +1923,27 @@ Notation "[ 'finOrderType' 'of' T ]" := (FinTotal.clone _ T%type _ )
 End FinTotalExports.
 HB.export FinTotalExports.
 
+#[short(type="finCDistrLatticeType")]
+HB.structure Definition FinCDistrLattice d :=
+  { T of Finite T & CDistrLattice d T }.
+
+#[short(type="finCTBDistrLatticeType")]
+HB.structure Definition FinCTBDistrLattice d :=
+  { T of Finite T & CTBDistrLattice d T }.
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:1932]: Same?

File: mathcomp/ssreflect/order.v [hunk 14]
```diff
@@ -1557,108 +1759,162 @@ Notation "[ 'bDistrLatticeType' 'of' T ]" := (BDistrLattice.clone _ T%type _)
...
 End FinLatticeExports.
 HB.export FinLatticeExports.
 
 #[short(type="finDistrLatticeType")]
 HB.structure Definition FinDistrLattice d :=
+  { T of Finite T & DistrLattice d T }.
+
+#[short(type="finTBDistrLatticeType")]
+HB.structure Definition FinTBDistrLattice d :=
   { T of Finite T & TBDistrLattice d T }.
```
[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/ssreflect/order.v:1904]: A `finDistrLatticeType` is not necessarily inhabited while a `finTBDistrLatticeType` is, as explained in CHANGELOG.

File: .nix/config.nix (hunk 12 above)
Comment (pi8027) [reply .nix/config.nix:73]: I wanted to test hierarchy-builder#414 (see the last commit), but this can be done in a separate PR.

File: mathcomp/ssreflect/order.v [hunk 15]
```diff
@@ -192,78 +256,92 @@ From mathcomp Require Import finset.
...
+(*           >=< y :=  [pred x | @Order.comparable d T x y]                   *)
+(*            >< y :=  [pred x | ~~ @Order.comparable d T x y]                *)
+(* 0-ary versions of order notations (in function_scope)                      *)
+(*          <=%O   :=  @Order.le         d T                                  *)
+(*          <%O    :=  @Order.lt         d T                                  *)
+(*          >=%O   :=  @Order.ge         d T                                  *)
+(*          >%O    :=  @Order.gt         d T                                  *)
+(*          >=<%O  :=  @Order.comparable d T                                  *)
+(*          <?=%O  :=  @Order.leif       d T                                  *)
+(*          <?<=%O :=  @Order.lteif      d T                                  *)
```
[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/ssreflect/order.v]: Fixed.

File: mathcomp/ssreflect/order.v (hunk 14 above)
[the remark this answers is not in the document]
Comment (proux01) [reply mathcomp/ssreflect/order.v:1906]: Ha indeed, but then is the first one of any practical use?

[the remark this answers is not in the document]
Comment (pi8027) [reply mathcomp/ssreflect/order.v:1906]: IIRC, the problem was something like `'I_n` for arbitrary `n` does not have a `finLatticeType` instance. @strub or @nhojem may remember it better.

File: .nix/config.nix (hunk 12 above)
Comment (proux01) [reply .nix/config.nix:73]: Ok, indeed let's do that in another PR and move toward merging the current one. It's already way too big.

File: mathcomp/ssreflect/order.v (hunk 14 above)
[the remark this answers is not in the document]
Comment (proux01) [reply mathcomp/ssreflect/order.v:1906]: Ok, that indeed sounds a legitimate use case.

File: mathcomp/ssreflect/order.v (hunk 8 above)
Comment (pi8027) [reply mathcomp/ssreflect/order.v]: Fixed anyway.

Comment (pi8027) [reply mathcomp/ssreflect/order.v]: @affeldt-aist I'm not going to improve the header documentation of order.v soon after merging this PR. So complain now if you have something to say, or it will be too late.

File: mathcomp/ssreflect/order.v [hunk 16]
```diff
@@ -31,59 +31,126 @@ From mathcomp Require Import finset.
...
-(* type natdvd (an alias of nat), (Order.le m n) is displayed m %| n; natdvd  *)
-(* is associated to the display dvd_display. Instantiating d with tt or an    *)
+(* "displays". Each generic interface for ordered types has, as its first     *)
+(* argument, a display of type Order.disp_t to control the printing of        *)
+(* notations. For example, when m and n are of type natdvd (an alias of nat), *)
+(* (Order.le m n) is displayed m %| n; natdvd is associated to the display    *)
+(* dvd_display. We stress that a display can control only printing, but not   *)
+(* parsing, e.g., writing m %| n does not let you trigger an inference of the *)
+(* instance associated to natdvd; such an inference should be triggered       *)
+(* through the use of a type alias. Instantiating d with Disp tt tt or an     *)
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:41]: Nice, can you just add an example like
```suggestion
(* (Order.le m n) is displayed m %| n; natdvd being associated to the display *)
(* dvd_display. We stress that a display can only control printing, but not   *)
(* parsing. E.g., writing m %| n does not let you trigger an inference of the *)
(* instance associated to natdvd; such an inference should be triggered       *)
(* through the use of a type alias, e.g., (m : natdvd) %| n. Instantiating d with Disp tt tt or an     *)
```

File: mathcomp/ssreflect/order.v (hunk 8 above)
Comment (affeldt-aist) [reply mathcomp/ssreflect/order.v]: Why do you want me to complain?
I have a question however:
"See below for more details about displays." <- Where does this point at? I do not see right away.

File: mathcomp/ssreflect/order.v [hunk 17]
```diff
@@ -31,59 +31,126 @@ From mathcomp Require Import finset.
...
+(* "displays". Each generic interface for ordered types has, as its first     *)
+(* argument, a display of type Order.disp_t to control the printing of        *)
+(* notations. For example, when m and n are of type natdvd (an alias of nat), *)
+(* (Order.le m n) is displayed m %| n; natdvd being associated to the display *)
+(* dvd_display. We stress that a display can only control printing, but not   *)
+(* parsing. E.g., writing m %| n does not let you trigger an inference of the *)
+(* instance associated to natdvd; such an inference should be triggered       *)
+(* through the use of a type alias, e.g., (m : natdvd) %| n. Instantiating d with Disp tt tt or an     *)
 (* unknown display will lead to a default display for notations. See below    *)
 (* for more details about displays.                                           *)
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:43]: Unfortunately, this has to be reindented.

Comment (pi8027) [reply mathcomp/ssreflect/order.v]: Done.

File: mathcomp/ssreflect/order.v (hunk 8 above)
Comment (pi8027) [reply mathcomp/ssreflect/order.v]: @affeldt-aist I expected you to complain because you said order.v was documented badly, particularly regarding, `order_scope` and displays, IIRC.

Fixed.

Comment (affeldt-aist) [reply mathcomp/ssreflect/order.v]: This is true that we spent quite some time with @proux01 to fix the documentation but afair it was mostly about putting stuff in order, adding doc about what was added during the port to MathComp 2, and remove redundancies. Since we were able to do it despite the huge size of the file, this means the documentation has always been at least good enough ^_^.

I saw the fix about my question. Okay.

Comment (pi8027) [reply mathcomp/ssreflect/order.v]: @affeldt-aist Thanks. It would still be nice if you could take a thorough look at the documentation.

Comment (affeldt-aist) [reply mathcomp/ssreflect/order.v]: I looked to me that the paragraph inside "Order relations and operations" about displays is a bit redundant with the foreword about displays so I moved it up in the last commit. I also corrected a few alignments.

Comment (affeldt-aist) [reply mathcomp/ssreflect/order.v]: There was a short list up of displays in the foreword that is a bit redundant with the list of ""copies" of types", so I factorized.

Comment (affeldt-aist) [reply mathcomp/ssreflect/order.v]: ok, so I made a few commits trying to streamline a bit more the documentation, what do you think?

File: mathcomp/ssreflect/order.v [hunk 18]
```diff
@@ -29,132 +29,227 @@ From mathcomp Require Import finset.
...
+(* Each generic interface for ordered types has, as its first argument, a     *)
+(* "display" of type Order.disp_t to control the printing of notations. For   *)
+(* example, when m and n are of type natdvd (an alias of nat), (Order.le m n) *)
+(* is displayed m %| n; natdvd being associated to the display dvd_display.   *)
+(*                                                                            *)
+(* We stress that a display can only control printing, but not parsing. For   *)
+(* example, writing m %| n does not let you trigger an inference of the       *)
+(* instance associated to natdvd; such an inference should be triggered       *)
+(* through the use of a type alias, e.g., (m : natdvd) %| n.                  *)
+(* In other words, beware of the asymmetry of canonical structure inference!  *)
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v:42]: @affeldt-aist I think this is not a technical limitation of canonical structures, but rather a limitation of the current design.

Comment (proux01) [reply mathcomp/ssreflect/order.v:42]: My point here would be that if we were using typeclasses rather than CS (which would admitedly cause a ton other issues), we could easily infer instances on both the type of operands *and* the display. Maybe a workaround could be found, but this is definitely less immediate with CS.
Anyway, I'm fine with removing the last sentence.

Comment (CohenCyril) [reply mathcomp/ssreflect/order.v]: I agree with @pi8027, but I think this should be:
` In other words, beware of the asymmetry of the current inference mechanism!`

**Comment by pi8027** [comment]
Bad news: 17% slowdown (comparing  8b6c16bd6b618a543ab2b5caa1587e46d5067f9c (master)..9885375ff7ff12d9445f467c5a5eec22ff772f19 )
```
    After |   Peak Mem | File Name                        |    Before |   Peak Mem ||    Change || Change (mem) | % Change | % Change (mem)
-------------------------------------------------------------------------------------------------------------------------------------------
29m27.86s | 1770352 ko | Total Time / Peak Mem            | 23m16.80s | 1508444 ko || +6m11.06s ||    261908 ko |  +26.56% |        +17.36%
-------------------------------------------------------------------------------------------------------------------------------------------
 7m02.99s | 1770352 ko | ssreflect/order.vo               |  2m25.55s | 1379584 ko || +4m37.44s ||    390768 ko | +190.61% |        +28.32%
 1m56.92s | 1399056 ko | algebra/ssrnum.vo                |  1m31.52s | 1178548 ko || +0m25.40s ||    220508 ko |  +27.75% |        +18.71%
 1m06.89s | 1391128 ko | algebra/matrix.vo                |  0m55.17s | 1261412 ko || +0m11.72s ||    129716 ko |  +21.24% |        +10.28%
 0m32.74s | 1231684 ko | field/algC.vo                    |  0m26.56s | 1053788 ko || +0m06.18s ||    177896 ko |  +23.26% |        +16.88%
 0m24.45s | 1032876 ko | algebra/interval.vo              |  0m17.73s |  916120 ko || +0m06.72s ||    116756 ko |  +37.90% |        +12.74%
 0m35.60s | 1196224 ko | character/classfun.vo            |  0m31.74s | 1070980 ko || +0m03.86s ||    125244 ko |  +12.16% |        +11.69%
 0m17.65s |  888104 ko | algebra/rat.vo                   |  0m14.37s |  795352 ko || +0m03.28s ||     92752 ko |  +22.82% |        +11.66%
 0m35.03s | 1111160 ko | field/finfield.vo                |  0m32.85s | 1080648 ko || +0m02.18s ||     30512 ko |   +6.63% |         +2.82%
 0m34.48s | 1081580 ko | character/character.vo           |  0m32.20s | 1013548 ko || +0m02.28s ||     68032 ko |   +7.08% |         +6.71%
 0m16.11s |  867324 ko | algebra/ssrint.vo                |  0m13.29s |  811460 ko || +0m02.82s ||     55864 ko |  +21.21% |         +6.88%
 0m47.29s | 1088372 ko | character/mxrepresentation.vo    |  0m45.97s | 1034136 ko || +0m01.32s ||     54236 ko |   +2.87% |         +5.24%
 0m43.38s | 1588484 ko | field/algebraics_fundamentals.vo |  0m41.51s | 1508444 ko || +0m01.87s ||     80040 ko |   +4.50% |         +5.30%
 0m37.63s |  990056 ko | field/galois.vo                  |  0m35.76s |  950264 ko || +0m01.87s ||     39792 ko |   +5.22% |         +4.18%
 0m29.63s | 1057400 ko | field/fieldext.vo                |  0m28.04s |  996832 ko || +0m01.59s ||     60568 ko |   +5.67% |         +6.07%
 0m22.30s |  933768 ko | character/inertia.vo             |  0m20.76s |  885916 ko || +0m01.54s ||     47852 ko |   +7.41% |         +5.40%
 0m19.28s |  840500 ko | algebra/mxalgebra.vo             |  0m17.66s |  801328 ko || +0m01.62s ||     39172 ko |   +9.17% |         +4.88%
 0m17.74s |  942996 ko | character/integral_char.vo       |  0m16.38s |  887220 ko || +0m01.36s ||     55776 ko |   +8.30% |         +6.28%
 0m17.50s |  930292 ko | character/vcharacter.vo          |  0m15.81s |  869904 ko || +0m01.69s ||     60388 ko |  +10.68% |         +6.94%
 0m16.59s |  881060 ko | field/falgebra.vo                |  0m15.50s |  837308 ko || +0m01.09s ||     43752 ko |   +7.03% |         +5.22%
 0m11.73s |  828320 ko | algebra/intdiv.vo                |  0m10.27s |  770264 ko || +0m01.46s ||     58056 ko |  +14.21% |         +7.53%
 0m07.77s |  755812 ko | algebra/archimedean.vo           |  0m06.20s |  696324 ko || +0m01.57s ||     59488 ko |  +25.32% |         +8.54%
 0m06.68s |  861868 ko | all/all.vo                       |  0m05.59s |  801608 ko || +0m01.09s ||     60260 ko |  +19.49% |         +7.51%
 0m03.42s |  594068 ko | ssreflect/all_ssreflect.vo       |  0m02.06s |  556864 ko || +0m01.36s ||     37204 ko |  +66.01% |         +6.68%
 1m40.20s | 1326840 ko | algebra/ssralg.vo                |  1m40.50s | 1319928 ko || -0m00.30s ||      6912 ko |   -0.29% |         +0.52%
 0m43.63s |  963372 ko | algebra/finalg.vo                |  0m43.54s |  962600 ko || +0m00.09s ||       772 ko |   +0.20% |         +0.08%
 0m41.00s |  923924 ko | solvable/extremal.vo             |  0m40.37s |  896688 ko || +0m00.63s ||     27236 ko |   +1.56% |         +3.03%
 0m27.08s |  851716 ko | solvable/extraspecial.vo         |  0m26.84s |  815172 ko || +0m00.24s ||     36544 ko |   +0.89% |         +4.48%
 0m24.89s |  839932 ko | algebra/mxpoly.vo                |  0m24.26s |  807192 ko || +0m00.63s ||     32740 ko |   +2.59% |         +4.05%
 0m20.60s |  814916 ko | algebra/poly.vo                  |  0m20.69s |  810828 ko || -0m00.09s ||      4088 ko |   -0.43% |         +0.50%
 0m19.58s |  949412 ko | field/closed_field.vo            |  0m18.65s |  908284 ko || +0m00.93s ||     41128 ko |   +4.98% |         +4.52%
 0m19.40s |  689752 ko | solvable/burnside_app.vo         |  0m19.41s |  692056 ko || -0m00.01s ||     -2304 ko |   -0.05% |         -0.33%
 0m18.10s |  934344 ko | field/algnum.vo                  |  0m17.69s |  884216 ko || +0m00.41s ||     50128 ko |   +2.31% |         +5.66%
 0m17.05s |  721804 ko | algebra/countalg.vo              |  0m17.06s |  719452 ko || -0m00.01s ||      2352 ko |   -0.05% |         +0.32%
 0m15.57s |  883080 ko | field/qfpoly.vo                  |  0m14.89s |  850772 ko || +0m00.68s ||     32308 ko |   +4.56% |         +3.79%
 0m15.05s |  836916 ko | algebra/qpoly.vo                 |  0m14.20s |  790728 ko || +0m00.85s ||     46188 ko |   +5.98% |         +5.84%
 0m14.92s |  851908 ko | algebra/vector.vo                |  0m14.25s |  826380 ko || +0m00.67s ||     25528 ko |   +4.70% |         +3.08%
 0m14.82s |  647976 ko | solvable/hall.vo                 |  0m14.79s |  648364 ko || +0m00.03s ||      -388 ko |   +0.20% |         -0.05%
 0m14.61s |  774348 ko | field/separable.vo               |  0m13.99s |  739732 ko || +0m00.62s ||     34616 ko |   +4.43% |         +4.67%
 0m14.36s |  666352 ko | solvable/maximal.vo              |  0m14.31s |  666672 ko || +0m00.05s ||      -320 ko |   +0.34% |         -0.04%
 0m13.72s |  643888 ko | algebra/polydiv.vo               |  0m13.74s |  643616 ko || -0m00.02s ||       272 ko |   -0.14% |         +0.04%
 0m13.23s |  767540 ko | character/mxabelem.vo            |  0m12.53s |  735060 ko || +0m00.70s ||     32480 ko |   +5.58% |         +4.41%
 0m13.06s |  608020 ko | fingroup/gproduct.vo             |  0m12.95s |  607448 ko || +0m00.11s ||       572 ko |   +0.84% |         +0.09%
 0m12.74s |  664148 ko | solvable/abelian.vo              |  0m12.72s |  664276 ko || +0m00.02s ||      -128 ko |   +0.15% |         -0.01%
 0m12.06s |  683912 ko | algebra/ring_quotient.vo         |  0m12.06s |  675380 ko || +0m00.00s ||      8532 ko |   +0.00% |         +1.26%
 0m10.48s |  585656 ko | fingroup/action.vo               |  0m10.47s |  587356 ko || +0m00.01s ||     -1700 ko |   +0.09% |         -0.28%
 0m08.39s |  595148 ko | fingroup/fingroup.vo             |  0m08.41s |  595172 ko || -0m00.02s ||       -24 ko |   -0.23% |         -0.00%
 0m07.95s |  635624 ko | solvable/finmodule.vo            |  0m08.00s |  637064 ko || -0m00.05s ||     -1440 ko |   -0.62% |         -0.22%
 0m07.86s |  615872 ko | solvable/alt.vo                  |  0m07.82s |  616000 ko || +0m00.04s ||      -128 ko |   +0.51% |         -0.02%
 0m07.59s |  612772 ko | solvable/center.vo               |  0m07.53s |  612912 ko || +0m00.06s ||      -140 ko |   +0.79% |         -0.02%
 0m07.41s |  570480 ko | ssreflect/seq.vo                 |  0m07.38s |  570264 ko || +0m00.03s ||       216 ko |   +0.40% |         +0.03%
 0m07.14s |  584596 ko | ssreflect/bigop.vo               |  0m07.17s |  582112 ko || -0m00.03s ||      2484 ko |   -0.41% |         +0.42%
 0m06.82s |  562992 ko | ssreflect/finset.vo              |  0m06.78s |  562108 ko || +0m00.04s ||       884 ko |   +0.58% |         +0.15%
 0m06.77s |  723668 ko | algebra/polyXY.vo                |  0m06.30s |  688292 ko || +0m00.47s ||     35376 ko |   +7.46% |         +5.13%
 0m06.52s |  533384 ko | fingroup/morphism.vo             |  0m06.58s |  533072 ko || -0m00.06s ||       312 ko |   -0.91% |         +0.05%
 0m06.37s |  629724 ko | algebra/zmodp.vo                 |  0m06.35s |  630448 ko || +0m00.02s ||      -724 ko |   +0.31% |         -0.11%
 0m06.30s |  788700 ko | field/cyclotomic.vo              |  0m05.51s |  761436 ko || +0m00.79s ||     27264 ko |  +14.33% |         +3.58%
 0m06.22s |  614052 ko | solvable/cyclic.vo               |  0m06.30s |  614388 ko || -0m00.08s ||      -336 ko |   -1.26% |         -0.05%
 0m06.17s |  610924 ko | solvable/pgroup.vo               |  0m06.21s |  615152 ko || -0m00.04s ||     -4228 ko |   -0.64% |         -0.68%
 0m06.12s |  600920 ko | solvable/jordanholder.vo         |  0m06.18s |  601316 ko || -0m00.06s ||      -396 ko |   -0.97% |         -0.06%
 0m05.94s |  610816 ko | solvable/frobenius.vo            |  0m05.86s |  610940 ko || +0m00.08s ||      -124 ko |   +1.36% |         -0.02%
 0m05.71s |  566520 ko | ssreflect/fintype.vo             |  0m05.76s |  563712 ko || -0m00.05s ||      2808 ko |   -0.86% |         +0.49%
 0m05.43s |  598216 ko | algebra/fraction.vo              |  0m05.49s |  597952 ko || -0m00.06s ||       264 ko |   -1.09% |         +0.04%
 0m05.20s |  529884 ko | fingroup/quotient.vo             |  0m05.21s |  529596 ko || -0m00.01s ||       288 ko |   -0.19% |         +0.05%
 0m04.70s |  596084 ko | solvable/gseries.vo              |  0m04.71s |  596540 ko || -0m00.01s ||      -456 ko |   -0.21% |         -0.07%
 0m04.53s |  602616 ko | solvable/sylow.vo                |  0m04.54s |  606824 ko || -0m00.01s ||     -4208 ko |   -0.22% |         -0.69%
 0m04.24s |  522112 ko | ssreflect/prime.vo               |  0m04.24s |  521760 ko || +0m00.00s ||       352 ko |   +0.00% |         +0.06%
 0m04.08s |  600216 ko | solvable/nilpotent.vo            |  0m04.09s |  600716 ko || -0m00.01s ||      -500 ko |   -0.24% |         -0.08%
 0m03.70s |  748608 ko | algebra/all_algebra.vo           |  0m03.12s |  713664 ko || +0m00.58s ||     34944 ko |  +18.58% |         +4.89%
 0m03.47s |  521396 ko | ssreflect/choice.vo              |  0m03.50s |  520332 ko || -0m00.03s ||      1064 ko |   -0.85% |         +0.20%
 0m03.27s |  499848 ko | ssreflect/path.vo                |  0m03.28s |  499600 ko || -0m00.01s ||       248 ko |   -0.30% |         +0.04%
 0m03.13s |  529164 ko | fingroup/perm.vo                 |  0m03.16s |  529168 ko || -0m00.03s ||        -4 ko |   -0.94% |         -0.00%
 0m03.12s |  515204 ko | fingroup/automorphism.vo         |  0m03.11s |  514844 ko || +0m00.01s ||       360 ko |   +0.32% |         +0.06%
 0m02.75s |  808200 ko | character/all_character.vo       |  0m02.22s |  762700 ko || +0m00.53s ||     45500 ko |  +23.87% |         +5.96%
 0m02.68s |  785744 ko | field/all_field.vo               |  0m02.04s |  746844 ko || +0m00.64s ||     38900 ko |  +31.37% |         +5.20%
 0m02.63s |  529168 ko | solvable/gfunctor.vo             |  0m02.70s |  524776 ko || -0m00.07s ||      4392 ko |   -2.59% |         +0.83%
 0m02.61s |  509716 ko | ssreflect/ssrnat.vo              |  0m02.64s |  509224 ko || -0m00.03s ||       492 ko |   -1.13% |         +0.09%
 0m02.51s |  600840 ko | solvable/primitive_action.vo     |  0m02.50s |  600668 ko || +0m00.01s ||       172 ko |   +0.39% |         +0.02%
 0m02.44s |  515708 ko | ssreflect/binomial.vo            |  0m02.48s |  519064 ko || -0m00.04s ||     -3356 ko |   -1.61% |         -0.64%
 0m02.39s |  504836 ko | ssreflect/fingraph.vo            |  0m02.38s |  502724 ko || +0m00.01s ||      2112 ko |   +0.42% |         +0.42%
 0m02.27s |  671072 ko | solvable/all_solvable.vo         |  0m01.41s |  656092 ko || +0m00.86s ||     14980 ko |  +60.99% |         +2.28%
 0m02.22s |  518628 ko | ssreflect/generic_quotient.vo    |  0m02.21s |  518448 ko || +0m00.01s ||       180 ko |   +0.45% |         +0.03%
 0m01.90s |  511884 ko | ssreflect/tuple.vo               |  0m01.93s |  513636 ko || -0m00.03s ||     -1752 ko |   -1.55% |         -0.34%
 0m01.83s |  506636 ko | ssreflect/finfun.vo              |  0m01.83s |  506280 ko || +0m00.00s ||       356 ko |   +0.00% |         +0.07%
 0m01.81s |  491516 ko | ssreflect/div.vo                 |  0m01.69s |  491412 ko || +0m00.12s ||       104 ko |   +7.10% |         +0.02%
 0m01.74s |  523244 ko | solvable/commutator.vo           |  0m01.75s |  523116 ko || -0m00.01s ||       128 ko |   -0.57% |         +0.02%
 0m01.72s |  503128 ko | ssreflect/eqtype.vo              |  0m01.72s |  502980 ko || +0m00.00s ||       148 ko |   +0.00% |         +0.02%
 0m00.83s |  510884 ko | fingroup/presentation.vo         |  0m00.84s |  510676 ko || -0m00.01s ||       208 ko |   -1.19% |         +0.04%
 0m00.63s |  494120 ko | ssreflect/ssrAC.vo               |  0m00.66s |  494592 ko || -0m00.03s ||      -472 ko |   -4.54% |         -0.09%
 0m00.42s |  455808 ko | fingroup/all_fingroup.vo         |  0m00.40s |  454136 ko || +0m00.02s ||      1672 ko |   +4.99% |         +0.36%
 0m00.11s |  160836 ko | ssreflect/ssrbool.vo             |  0m00.11s |  160644 ko || +0m00.00s ||       192 ko |   +0.00% |         +0.11%
 0m00.09s |  144672 ko | ssreflect/ssrfun.vo              |  0m00.10s |  143376 ko || -0m00.01s ||      1296 ko |  -10.00% |         +0.90%
 0m00.07s |  123468 ko | ssreflect/ssreflect.vo           |  0m00.09s |  122104 ko || -0m00.02s ||      1364 ko |  -22.22% |         +1.11%
 0m00.06s |  109672 ko | ssreflect/ssrnotations.vo        |  0m00.06s |  108588 ko || +0m00.00s ||      1084 ko |   +0.00% |         +0.99%
 0m00.05s |  105556 ko | ssreflect/ssrmatching.vo         |  0m00.05s |  106312 ko || +0m00.00s ||      -756 ko |   +0.00% |         -0.71%
```

**Review by affeldt-aist — COMMENTED** [review]
For me it is ok but I have essentially looked at the documentation of order.v.

**Comment by proux01** [comment]
> Bad news: 26% slowdown (comparing [8b6c16b](https://github.com/math-comp/math-comp/commit/8b6c16bd6b618a543ab2b5caa1587e46d5067f9c) (master)..[9885375](https://github.com/math-comp/math-comp/commit/9885375ff7ff12d9445f467c5a5eec22ff772f19) )
> 
> ```
>     After |   Peak Mem | File Name                        |    Before |   Peak Mem ||    Change || Change (mem) | % Change | % Change (mem)
> -------------------------------------------------------------------------------------------------------------------------------------------
> 29m27.86s | 1770352 ko | Total Time / Peak Mem            | 23m16.80s | 1508444 ko || +6m11.06s ||    261908 ko |  +26.56% |        +17.36%
> -------------------------------------------------------------------------------------------------------------------------------------------
>  7m02.99s | 1770352 ko | ssreflect/order.vo               |  2m25.55s | 1379584 ko || +4m37.44s ||    390768 ko | +190.61% |        +28.32%

The jump from 3 to 7 min for order.v is indeed a bit worrying. Have you looked to the result of `make TIMING=1` to see if this comes from some particular lines?

**Comment by proux01** [comment]
There shouldn't be "fix" commits if they are fixing something introduced by another commit of the same PR. Otherwise, it's rather the other way around: it could be nice to have more atomic commits, like one for introducing the new structures, one for introducing disp_t, one for changing it from unit to the (kind of) pair, one for introducing autoduality,...

**Comment by proux01** [comment]
If they are fixing something introduced by a previous commit, I guess that's what should be done.

**Comment by proux01** [comment]
Rebased

**Comment by proux01** [comment]
I started splitting this into more atomic commits but there is still a huge commit that would still benefit being cut into meaningful smaller commits, for instance:
* new instances and their notations
* semi lattices structures
* associated instances
* structures for lattices with complements
* associated instances
* new finlattices structures
* associated instances
* ...

Having a cleaner history would enable both:
* easier review
* a better understanding of how the performance overhead is distributed among the new features

**Comment by pi8027** [comment]
The fourth commit, "Move lemmas to generalize," does not seem to work (compile) before moving the dual instances up. Moving the dual instances requires the dualization of the definitions of order structures because they were depending on the order theory. Is this really what you want?

**Comment by pi8027** [comment]
"Make hasBottom and hasTop primitive" has to be done after (or at the same time as) re-exporting `le0x` and `lex1` by hand because there is a bug in HB that the `primitive` attribute for mixins breaks the types of these lemmas (refolding of `\top` and `\bot` is not done properly). Splitting is really a non-trivial work here.

File: mathcomp/ssreflect/order.v [hunk 19]
```diff
@@ -191,85 +299,101 @@ From mathcomp Require Import finset.
...
-(*    x < y ?<= if C <-> x is smaller than y, and strictly if C is false      *)
-(*           x >=< y <-> x and y are comparable (:= (x <= y) || (y <= x))     *)
-(*            x >< y <-> x and y are incomparable (:= ~~ x >=< y)             *)
-(*          f \min g == the function x |-> Order.min (f x) (g x);             *)
-(*                      f \min g simplifies on application                    *)
-(*          f \max g == the function x |-> Order.max (f x) (g x);             *)
-(*                      f \max g simplifies on application                    *)
-(*   nondecreasing f <-> the function f : T -> T' is nondecreasing,           *)
-(*                      where T' is a porderType                              *)
-(*                   := {homo f : x y / x <= y}                               *)
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v:215]: Removed while rebasing?

File: mathcomp/ssreflect/order.v [hunk 20]
```diff
@@ -486,17 +594,19 @@ Reserved Notation "x < y ?<= 'if' c" (at level 70, y, c at next level,
 Reserved Notation "x < y ?<= 'if' c :> T" (at level 70, y, c at next level,
   format "x '[hv'  <  y '/'  ?<=  'if'  c  :> T ']'").
 
-(* Reserved notation for lattice operations. *)
+(* Reserved notations for bottom/top elements *)
+Reserved Notation "0%O" (at level 0).  (* deprecated in 1.17.0 *)
+Reserved Notation "1%O" (at level 0).  (* deprecated in 1.17.0 *)
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v:599]: Re-added while rebasing?

File: mathcomp/ssreflect/order.v [hunk 21]
```diff
@@ -1331,6 +1571,11 @@ Notation leRHS := (X in (_ <= X)%O)%pattern.
 Notation ltLHS := (X in (X < _)%O)%pattern.
 Notation ltRHS := (X in (_ < X)%O)%pattern.
 
+Notation "0%O" := bottom (only parsing).  (* deprecated in 1.17.0 *)
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v:1574]: Same here.

File: mathcomp/ssreflect/order.v [hunk 22]
```diff
@@ -1331,6 +1571,11 @@ Notation leRHS := (X in (_ <= X)%O)%pattern.
...
+Notation "\bot" := bottom : order_scope.
+Notation "1%O" := top (only parsing).  (* deprecated in 1.17.0 *)
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v:1576]: Same here.

**Comment by pi8027** [comment]
Let's merge #1190 first and rebase this again. It would reduce the size of the diff.

**Comment by proux01** [comment]
> The fourth commit "Move lemmas to generalize" does not seem to work (compile) before moving the dual instances up. Moving the dual instances requires the dualization of the definitions of order structures because they were depending on the order theory. Is this really what you want?

Not sure what you mean, the commit seems to perfectly compile?

> Splitting is really non-trivial work here.

I'm not saying it's trivial, only that we need it.

**Comment by proux01** [comment]
> "Make hasBottom and hasTop primitive" has to be done after (or at the same time as) re-exporting `le0x` and `lex1` by hand because there is a bug in HB that the `primitive` attribute for mixins breaks the types of these lemmas (refolding of `\top` and `\bot` is not done properly).

Done

**Comment by proux01** [comment]
Rebased on top of https://github.com/math-comp/math-comp/pull/1190 now that it is merged.

File: mathcomp/ssreflect/order.v [hunk 23]
```diff
@@ -1507,87 +1730,171 @@ Notation "\meet_ ( i 'in' A ) F" :=
...
+  codiffErcompl : forall x y, codiff x y = rcompl x \top y;
+}.
+
+#[short(type="ctDistrLatticeType")]
+HB.structure Definition CTDistrLattice d :=
+  { T of CDistrLattice d T & hasTop d T &
+         CDistrLattice_hasDualSectionalComplement d T }.
+
+#[deprecated(since="mathcomp 2.0.0", note="Use diff instead.")]
+Notation sub := diff.
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v:1809]:
```suggestion
```

**Comment by pi8027** [comment]
@proux01 Did you check that the commit "Make dual involutive" compiles, including `test_order_conv.v`? `eq_dual_dual_cbDistrLatticeType` would not work before the introduction of `ctDistrLatticeType`. (Making the hierarchy symmetric with respect to dual is an essential part of definitionally involutive duals.)

I will take a look at the diff and think about how to split it.

**Comment by proux01** [comment]
> @proux01 Did you check that the commit "Make dual involutive" compiles, including `test_order_conv.v`? `eq_dual_dual_cbDistrLatticeType` would not work before the introduction of `ctDistrLatticeType`. (Making the hierarchy symmetric with respect to dual is an essential part of definitionally involutive duals.)

I don't know why but I can confirm the test file works, including

```Coq
Let eq_dual_dual_cbDistrLatticeType (T : cbDistrLatticeType disp) :
  Order.CBDistrLattice.on T = Order.CBDistrLattice.on T^d^d := erefl.
```

Of course, it doesn't work for `ctDistrLatticeType` which doesn't even exist at that point.

> I will take a look at the diff and think about how to split it.

Thanks a lot. My list above is probably a first rough idea (I already did the first item). I guess, it's probably easier to add all the new structures before handling the duality, then all the instances by the end of the file.

**Comment by proux01** [comment]
I've extracted semilattices to their own commit. I won't touch anything more in the coming weeks, so feel free to continue the commit split with distrlattices / finlattices / ...

**Comment by pi8027** [comment]
Done.

**Comment by pi8027** [comment]
I'm open to splitting this into two or three PRs if needed. Adding the semilattice and complemented lattice structures and adapting the pointwise and lexicographic order instances to the new structures can be done separately.

File: mathcomp/ssreflect/order.v [hunk 24]
```diff
@@ -7216,17 +7178,19 @@ Context {disp disp' : unit}.
...
+  SubCountable.on (n.-tuple T).
+#[export] HB.instance Definition _ (T : finType) :=
+  SubFinite.on (n.-tuple T).
 End Basics.
 
 Section POrder.
-Implicit Types (T : porderType disp).
+Implicit Types (n : nat) (T : porderType disp).
 
-#[export] HB.instance Definition _ n T := SubChoice.on (n.-tuple T).
```
Comment (pi8027) [inline mathcomp/ssreflect/order.v]: This change would have a slight semantic change and should be separated from the first commit. (I will do that if we agree.)

Comment (pi8027) [reply mathcomp/ssreflect/order.v]: Done.

File: mathcomp/ssreflect/order.v [hunk 25]
```diff
@@ -1507,87 +1727,168 @@ Notation "\meet_ ( i 'in' A ) F" :=
...
 HB.structure Definition FinPOrder d := { T of Finite T & POrder d T }.
 
+#[short(type="finBPOrderType")]
+HB.structure Definition FinBPOrder d := { T of FinPOrder d T & hasBottom d T }.
+
+#[short(type="finTPOrderType")]
+HB.structure Definition FinTPOrder d := { T of FinPOrder d T & hasTop d T }.
+
+#[short(type="finTBPOrderType")]
+HB.structure Definition FinTBPOrder d := { T of FinBPOrder d T & hasTop d T }.
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:1840]: I understand the point of adding `finPOrderType` since its inhabitants are the one of `finTBPOrderType` plus the empty type, but it remains unclear to me whether we want to add `finBPOderType` and `finTPOrderType` whose inhabitants are the same as `fin TBPOrderType`?

Comment (pi8027) [reply mathcomp/ssreflect/order.v:1840]: Here is an instance of `finTPOrderType` that does not form `finTBPOrderType`, illustrated as a Hasse diagram:
```
  o
 / \
o   o
```

Comment (pi8027) [reply mathcomp/ssreflect/order.v:1840]: In other words, a `finPOrderType` may have several maximum (minimum) elements since the order is partial.

Comment (proux01) [reply mathcomp/ssreflect/order.v:1840]: Indeed, my bad, I mixed porder and lattices.

File: mathcomp/ssreflect/order.v (hunk 4 above)
Comment (proux01) [reply mathcomp/ssreflect/order.v:4294]: It's a separate issue, let's handle that in a separate PR.

File: mathcomp/ssreflect/order.v (hunk 5 above)
Comment (proux01) [reply mathcomp/ssreflect/order.v:8577]: There doesn't seem to be a simple immediate solution, let's keep the FIXME and not wait on it to merge the current PR.

File: mathcomp/ssreflect/order.v (hunk 6 above)
Comment (proux01) [reply mathcomp/ssreflect/order.v:8071]: There doesn't seem to be a simple immediate solution, let's keep the FIXME and not wait on it to merge the current PR.

File: mathcomp/ssreflect/order.v (hunk 9 above)
Comment (proux01) [reply mathcomp/ssreflect/order.v]: Let's keep the FIXME for now (please just make it explicit that this ideally should use HB.saturate)

File: mathcomp/ssreflect/order.v (hunk 10 above)
Comment (proux01) [reply mathcomp/ssreflect/order.v]: Let's keep the FIXME for now (please just make it explicit that this ideally should use HB.saturate)

File: mathcomp/ssreflect/order.v [hunk 26]
```diff
@@ -31,133 +31,244 @@ From mathcomp Require Import finset.
...
+(*     joinSemilatticeType d == the type of join semilattices                 *)
+(*                              The HB class is called JoinSemilattice.       *)
+(*    bJoinSemilatticeType d == joinSemilatticeType with a bottom element     *)
+(*                              The HB class is called BJoinSemilattice.      *)
+(*    tJoinSemilatticeType d == joinSemilatticeType with a top element        *)
+(*                              The HB class is called TJoinSemilattice.      *)
+(*   tbJoinSemilatticeType d == joinSemilatticeType with both a top and a     *)
+(*                              bottom                                        *)
+(*                              The HB class is called TBJoinSemilattice.     *)
+(*             latticeType d == the type of non-distributive lattices         *)
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:113]: Isn't it "non necessarily distributive" rather than "non distributive" but then isn't it just easier to not write it? It seems just noise to me (there are distributive lattices just below so should be relatively obvious that plain lattices are not necessarily distributive, besides that's just the usual mathematical definition)

File: mathcomp/ssreflect/order.v [hunk 27]
```diff
@@ -8138,20 +9631,49 @@ Export Order.Exports.
...
+Export Order.FinLattice.Exports.
+Export Order.FinTBLattice.Exports.
+Export Order.FinDistrLattice.Exports.
+Export Order.FinTBDistrLattice.Exports.
 Export Order.FinTotal.Exports.
+Export Order.FinTBTotal.Exports.
+Export Order.FinCDistrLattice.Exports.
+Export Order.FinCTBDistrLattice.Exports.
 
 (* FIXME: check if covered by Order.Exports *)
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:9678]: Is there anything to do about that?

File: mathcomp/ssreflect/order.v (hunk 2 above)
Comment (proux01) [reply mathcomp/ssreflect/order.v:2073]: Let's just add a FIXME pointing to the HB bug and merge as is.

File: mathcomp/ssreflect/order.v [hunk 28]
```diff
@@ -1721,15 +2026,134 @@ Notation "\meet^d_ ( i 'in' A ) F" :=
...
+*)
+
+HB.instance Definition _ d (T : distrLatticeType d) :=
+  Lattice_isDistributive.Build (dual_display d) T^d joinIl meetUl.
+
+HB.instance Definition _ d (T : orderType d) :=
+  DistrLattice_isTotal.Build (dual_display d) T^d (fun x y => le_total y x).
+
+HB.saturate.
+(*
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:2113]: Let's just add a FIXME pointing to the HB bug and merge as is.

File: mathcomp/ssreflect/order.v [hunk 29]
```diff
@@ -1721,15 +2026,134 @@ Notation "\meet^d_ ( i 'in' A ) F" :=
...
+  CDistrLattice_hasSectionalComplement.Build (dual_display d) T^d codiffErcompl.
+HB.instance Definition _ d (T : cbDistrLatticeType d) :=
+  CDistrLattice_hasDualSectionalComplement.Build (dual_display d) T^d
+    diffErcompl.
+HB.instance Definition _ d (T : ctbDistrLatticeType d) :=
+  CDistrLattice_hasComplement.Build (dual_display d) T^d
+    complEcodiff complEdiff.
+
+HB.saturate.
+(*
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:2142]: Let's just add a FIXME pointing to the HB bug and merge as is.

File: mathcomp/ssreflect/order.v [hunk 30]
```diff
@@ -1507,87 +1731,168 @@ Notation "\meet_ ( i 'in' A ) F" :=
...
-#[key="T"]
-HB.mixin Record hasRelativeComplement d (T : Type) of BDistrLattice d T := {
-  diff   : T -> T -> T;
-  diffKI : forall x y, y `&` diff x y = bottom;
-  joinIB : forall x y, (x `&` y) `|` diff x y = x
+#[key="T", primitive]
+HB.mixin Record CDistrLattice_hasSectionalComplement d T
+         of CDistrLattice d T & hasBottom d T := {
+  diff : T -> T -> T;
+  diffErcompl : forall x y, diff x y = rcompl (\bot : T) x y; (* FIXME? *)
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:1789]: What is this FIXME?

File: mathcomp/ssreflect/order.v [hunk 31]
```diff
@@ -1507,87 +1731,168 @@ Notation "\meet_ ( i 'in' A ) F" :=
...
-#[key="T"]
-HB.mixin Record hasComplement d (T : Type) of
-         TBDistrLattice d T & CBDistrLattice d T := {
+#[key="T", primitive]
+HB.mixin Record CDistrLattice_hasComplement d T of
+         CTDistrLattice d T & CBDistrLattice d T := {
   compl : T -> T;
-  complE : forall x : T, compl x = (top : T) `\` x (* FIXME? *)
+  complEdiff : forall x : T, compl x = (top : T) `\` x; (* FIXME? *)
+  complEcodiff : forall x : T, compl x = codiff (\bot : T) x; (* FIXME? *)
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:1818]: What are those FIXMES?

File: mathcomp/ssreflect/order.v [hunk 32]
```diff
@@ -3768,627 +4464,739 @@ Notation le_minl := ge_min.
...
+Section CTDistrLatticeTheory.
+Context {disp : disp_t} {L : ctDistrLatticeType disp}.
+Implicit Types (x y z : L).
 
-End TLatticeTheory.
+Lemma codiffErcompl x y : codiff x y = rcompl x \top y.
+Proof. exact: codiffErcompl. Qed.
 
-End TLatticeTheory.
+(* TODO: complete this theory module *)
```
Comment (proux01) [inline mathcomp/ssreflect/order.v:4665]: Let's merge as is. This can be done in a further PR.

**Review by proux01 — APPROVED** [review]
Thanks a lot @pi8027  for the very nice rebase!
I got a careful look and only edited a few minor details, mostly in the changelog (c.f. the diff https://github.com/math-comp/math-comp/compare/ac092f5509a0325566b795104b3c840c059cbd33..af8ec1db2fff0d8a93e2dd4e842216a56a78b5e1 )

Everyone: feel free to give a look by commit if you want, except the last commit that remains huge, all others are now reasonnably atomic.

I'll do some profiling in the coming days and I'd like to merge by the end of next week (if overlays can be merged by then). Even if there is a performance impact, the solution likely lies much more in optimizing HB itself than the current PR, so let's not delay it further.

File: mathcomp/ssreflect/order.v (hunk 26 above)
Comment (pi8027) [reply mathcomp/ssreflect/order.v:113]: I agree.

File: mathcomp/ssreflect/order.v (hunk 27 above)
Comment (pi8027) [reply mathcomp/ssreflect/order.v:9678]: I don't know what to fix here... :-/

File: mathcomp/ssreflect/order.v (hunk 30 above)
Comment (pi8027) [reply mathcomp/ssreflect/order.v:1789]: IIRC, the issue here is that we cannot remove the type annotation `: T` because of an issue in HB.

File: mathcomp/ssreflect/order.v (hunk 31 above)
Comment (pi8027) [reply mathcomp/ssreflect/order.v:1818]: Same here.

File: mathcomp/ssreflect/order.v (hunk 30 above)
Comment (proux01) [reply mathcomp/ssreflect/order.v:1789]: Ok, then lets just write it in the FIXME:
```suggestion
  diffErcompl : forall x y, diff x y = rcompl (\bot : T) x y; (* FIXME: a bug in HB prevents us writing "rcompl \bot x y" *)
```

File: mathcomp/ssreflect/order.v (hunk 31 above)
Comment (proux01) [reply mathcomp/ssreflect/order.v:1818]: Let's write it in the FIXME

**Comment by proux01** [comment]
FWIW, some more profiling. Not much to deduce, the 26% overhead seem distributed among commits, with addition of new structures and also when adding a lot of new instances (last commit).
<details><summary>master: 14:09.68 (1365836ko)</summary>
840.92user 8.59system 14:09.68elapsed 99%CPU (0avgtext+0avgdata 1365836maxresident)k</br>
ssreflect/order.vo (real: 86.68, user: 86.46, sys: 0.19, mem: 1343596 ko)</br>
algebra/ssralg.vo (real: 60.72, user: 60.50, sys: 0.20, mem: 1352224 ko)</br>
algebra/ssrnum.vo (real: 55.74, user: 55.52, sys: 0.22, mem: 1145280 ko)</br>
algebra/matrix.vo (real: 33.69, user: 33.52, sys: 0.16, mem: 1214320 ko)</br>
character/mxrepresentation.vo (real: 28.36, user: 28.18, sys: 0.15, mem: 1007352 ko)</br>
field/algebraics_fundamentals.vo (real: 25.92, user: 25.72, sys: 0.20, mem: 1365836 ko)</br>
algebra/finalg.vo (real: 25.86, user: 25.68, sys: 0.16, mem: 903732 ko)</br>
solvable/extremal.vo (real: 25.84, user: 25.72, sys: 0.11, mem: 858100 ko)</br>
field/galois.vo (real: 22.13, user: 22.01, sys: 0.11, mem: 912096 ko)</br>
field/finfield.vo (real: 20.30, user: 20.18, sys: 0.12, mem: 1068140 ko)</br>
character/classfun.vo (real: 19.47, user: 19.26, sys: 0.20, mem: 1068728 ko)</br>
character/character.vo (real: 19.36, user: 19.24, sys: 0.12, mem: 961972 ko)</br>
solvable/extraspecial.vo (real: 17.54, user: 17.45, sys: 0.08, mem: 778016 ko)</br>
field/algC.vo (real: 16.95, user: 16.78, sys: 0.16, mem: 1014204 ko)</br>
field/fieldext.vo (real: 16.64, user: 16.51, sys: 0.13, mem: 978716 ko)</br>
algebra/mxpoly.vo (real: 13.41, user: 13.29, sys: 0.09, mem: 767536 ko)</br>
character/inertia.vo (real: 12.87, user: 12.79, sys: 0.08, mem: 849972 ko)</br>
algebra/poly.vo (real: 11.81, user: 11.68, sys: 0.13, mem: 761752 ko)</br>
solvable/burnside_app.vo (real: 11.80, user: 11.73, sys: 0.07, mem: 655648 ko)</br>
field/closed_field.vo (real: 11.33, user: 11.16, sys: 0.16, mem: 864052 ko)</br>
field/algnum.vo (real: 10.76, user: 10.67, sys: 0.09, mem: 830988 ko)</br>
algebra/mxalgebra.vo (real: 10.44, user: 10.30, sys: 0.11, mem: 759000 ko)</br>
algebra/interval.vo (real: 10.28, user: 10.12, sys: 0.16, mem: 855944 ko)</br>
algebra/countalg.vo (real: 9.93, user: 9.81, sys: 0.11, mem: 659888 ko)</br>
character/integral_char.vo (real: 9.72, user: 9.60, sys: 0.11, mem: 835112 ko)</br>
algebra/vector.vo (real: 9.64, user: 9.57, sys: 0.06, mem: 806584 ko)</br>
character/vcharacter.vo (real: 9.60, user: 9.48, sys: 0.12, mem: 826132 ko)</br>
solvable/hall.vo (real: 9.27, user: 9.18, sys: 0.09, mem: 609616 ko)</br>
solvable/maximal.vo (real: 9.19, user: 9.11, sys: 0.08, mem: 625432 ko)</br>
field/qfpoly.vo (real: 9.19, user: 9.13, sys: 0.06, mem: 806976 ko)</br>
field/falgebra.vo (real: 9.13, user: 9.01, sys: 0.11, mem: 799068 ko)</br>
field/separable.vo (real: 8.53, user: 8.45, sys: 0.08, mem: 701540 ko)</br>
algebra/polydiv.vo (real: 8.28, user: 8.22, sys: 0.06, mem: 603404 ko)</br>
algebra/rat.vo (real: 8.21, user: 8.17, sys: 0.03, mem: 752256 ko)</br>
algebra/qpoly.vo (real: 8.15, user: 8.04, sys: 0.11, mem: 759296 ko)</br>
character/mxabelem.vo (real: 8.06, user: 7.96, sys: 0.10, mem: 687860 ko)</br>
fingroup/gproduct.vo (real: 7.80, user: 7.74, sys: 0.06, mem: 562076 ko)</br>
solvable/abelian.vo (real: 7.72, user: 7.65, sys: 0.07, mem: 618184 ko)</br>
algebra/ssrint.vo (real: 7.66, user: 7.56, sys: 0.10, mem: 765412 ko)</br>
algebra/ring_quotient.vo (real: 7.08, user: 7.01, sys: 0.07, mem: 638872 ko)</br>
fingroup/action.vo (real: 7.01, user: 6.94, sys: 0.07, mem: 538424 ko)</br>
algebra/intdiv.vo (real: 6.31, user: 6.22, sys: 0.09, mem: 731544 ko)</br>
solvable/finmodule.vo (real: 5.58, user: 5.48, sys: 0.09, mem: 594564 ko)</br>
fingroup/fingroup.vo (real: 5.11, user: 5.04, sys: 0.04, mem: 548048 ko)</br>
solvable/alt.vo (real: 4.80, user: 4.69, sys: 0.10, mem: 567716 ko)</br>
solvable/center.vo (real: 4.53, user: 4.47, sys: 0.06, mem: 567980 ko)</br>
ssreflect/seq.vo (real: 4.26, user: 4.17, sys: 0.08, mem: 525016 ko)</br>
ssreflect/bigop.vo (real: 4.22, user: 4.15, sys: 0.06, mem: 537848 ko)</br>
fingroup/morphism.vo (real: 4.04, user: 3.98, sys: 0.03, mem: 494808 ko)</br>
ssreflect/finset.vo (real: 4.00, user: 3.91, sys: 0.08, mem: 517784 ko)</br>
algebra/polyXY.vo (real: 3.74, user: 3.66, sys: 0.07, mem: 635672 ko)</br>
solvable/jordanholder.vo (real: 3.73, user: 3.61, sys: 0.10, mem: 557168 ko)</br>
solvable/frobenius.vo (real: 3.71, user: 3.62, sys: 0.08, mem: 570456 ko)</br>
fingroup/quotient.vo (real: 3.70, user: 3.66, sys: 0.04, mem: 485716 ko)</br>
solvable/pgroup.vo (real: 3.64, user: 3.57, sys: 0.07, mem: 570508 ko)</br>
algebra/zmodp.vo (real: 3.60, user: 3.52, sys: 0.08, mem: 586704 ko)</br>
field/cyclotomic.vo (real: 3.57, user: 3.46, sys: 0.11, mem: 710088 ko)</br>
solvable/cyclic.vo (real: 3.52, user: 3.45, sys: 0.06, mem: 567932 ko)</br>
algebra/archimedean.vo (real: 3.49, user: 3.43, sys: 0.04, mem: 647236 ko)</br>
ssreflect/fintype.vo (real: 3.36, user: 3.23, sys: 0.13, mem: 518144 ko)</br>
all/all.vo (real: 3.26, user: 3.13, sys: 0.12, mem: 765260 ko)</br>
algebra/fraction.vo (real: 3.13, user: 3.05, sys: 0.08, mem: 564164 ko)</br>
solvable/gseries.vo (real: 2.78, user: 2.68, sys: 0.09, mem: 553356 ko)</br>
solvable/sylow.vo (real: 2.64, user: 2.59, sys: 0.04, mem: 559380 ko)</br>
ssreflect/prime.vo (real: 2.45, user: 2.41, sys: 0.04, mem: 471212 ko)</br>
solvable/nilpotent.vo (real: 2.40, user: 2.37, sys: 0.02, mem: 555364 ko)</br>
ssreflect/choice.vo (real: 2.08, user: 2.04, sys: 0.04, mem: 471744 ko)</br>
solvable/primitive_action.vo (real: 2.07, user: 2.05, sys: 0.02, mem: 553632 ko)</br>
ssreflect/path.vo (real: 1.93, user: 1.83, sys: 0.09, mem: 456092 ko)</br>
algebra/all_algebra.vo (real: 1.92, user: 1.84, sys: 0.08, mem: 676404 ko)</br>
fingroup/perm.vo (real: 1.87, user: 1.74, sys: 0.12, mem: 482484 ko)</br>
fingroup/automorphism.vo (real: 1.86, user: 1.81, sys: 0.04, mem: 471232 ko)</br>
solvable/gfunctor.vo (real: 1.67, user: 1.64, sys: 0.03, mem: 478780 ko)</br>
ssreflect/fingraph.vo (real: 1.56, user: 1.42, sys: 0.14, mem: 453812 ko)</br>
ssreflect/ssrnat.vo (real: 1.49, user: 1.44, sys: 0.05, mem: 462124 ko)</br>
ssreflect/binomial.vo (real: 1.46, user: 1.40, sys: 0.06, mem: 472904 ko)</br>
character/all_character.vo (real: 1.36, user: 1.27, sys: 0.09, mem: 721344 ko)</br>
ssreflect/generic_quotient.vo (real: 1.30, user: 1.22, sys: 0.08, mem: 478400 ko)</br>
field/all_field.vo (real: 1.29, user: 1.21, sys: 0.08, mem: 696792 ko)</br>
ssreflect/tuple.vo (real: 1.16, user: 1.09, sys: 0.07, mem: 471564 ko)</br>
ssreflect/all_ssreflect.vo (real: 1.16, user: 1.09, sys: 0.07, mem: 516384 ko)</br>
ssreflect/finfun.vo (real: 1.13, user: 1.09, sys: 0.04, mem: 463056 ko)</br>
ssreflect/eqtype.vo (real: 1.09, user: 1.01, sys: 0.08, mem: 451364 ko)</br>
solvable/commutator.vo (real: 1.06, user: 1.02, sys: 0.04, mem: 480192 ko)</br>
ssreflect/div.vo (real: 1.05, user: 0.97, sys: 0.08, mem: 447996 ko)</br>
solvable/all_solvable.vo (real: 0.89, user: 0.82, sys: 0.07, mem: 609792 ko)</br>
fingroup/presentation.vo (real: 0.54, user: 0.49, sys: 0.05, mem: 468564 ko)</br>
ssreflect/ssrAC.vo (real: 0.40, user: 0.33, sys: 0.06, mem: 448972 ko)</br>
fingroup/all_fingroup.vo (real: 0.39, user: 0.26, sys: 0.13, mem: 464764 ko)</br>
ssreflect/ssrbool.vo (real: 0.08, user: 0.06, sys: 0.02, mem: 141928 ko)</br>
ssreflect/ssrfun.vo (real: 0.07, user: 0.04, sys: 0.02, mem: 111856 ko)</br>
ssreflect/ssreflect.vo (real: 0.05, user: 0.04, sys: 0.01, mem: 87028 ko)</br>
ssreflect/ssrnotations.vo (real: 0.04, user: 0.03, sys: 0.01, mem: 74936 ko)</br>
ssreflect/ssrmatching.vo (real: 0.04, user: 0.01, sys: 0.02, mem: 72232 ko)
</details>
<details><summary>Add subCountType and subFinType instances on copies of n.-tuple T in order.v: 14:17.41 (1376068ko)</summary>
848.50user 8.83system 14:17.41elapsed 99%CPU (0avgtext+0avgdata 1376068maxresident)k</br>
ssreflect/order.vo (real: 86.13, user: 85.91, sys: 0.22, mem: 1303852 ko)</br>
algebra/ssralg.vo (real: 59.20, user: 59.02, sys: 0.17, mem: 1352644 ko)</br>
algebra/ssrnum.vo (real: 55.66, user: 55.55, sys: 0.10, mem: 1174628 ko)</br>
algebra/matrix.vo (real: 34.81, user: 34.66, sys: 0.15, mem: 1213620 ko)</br>
character/mxrepresentation.vo (real: 29.00, user: 28.87, sys: 0.11, mem: 1002556 ko)</br>
algebra/finalg.vo (real: 27.02, user: 26.94, sys: 0.07, mem: 902548 ko)</br>
solvable/extremal.vo (real: 25.84, user: 25.67, sys: 0.16, mem: 856096 ko)</br>
field/algebraics_fundamentals.vo (real: 25.84, user: 25.51, sys: 0.30, mem: 1376068 ko)</br>
field/galois.vo (real: 22.12, user: 21.98, sys: 0.14, mem: 911208 ko)</br>
field/finfield.vo (real: 20.04, user: 19.85, sys: 0.18, mem: 1065984 ko)</br>
character/classfun.vo (real: 20.01, user: 19.82, sys: 0.19, mem: 1067972 ko)</br>
character/character.vo (real: 18.41, user: 18.33, sys: 0.07, mem: 957376 ko)</br>
solvable/extraspecial.vo (real: 17.53, user: 17.38, sys: 0.14, mem: 780084 ko)</br>
field/algC.vo (real: 17.33, user: 17.20, sys: 0.13, mem: 1015476 ko)</br>
field/fieldext.vo (real: 17.16, user: 17.10, sys: 0.06, mem: 976764 ko)</br>
algebra/mxpoly.vo (real: 14.08, user: 13.99, sys: 0.09, mem: 768688 ko)</br>
character/inertia.vo (real: 12.91, user: 12.79, sys: 0.12, mem: 850020 ko)</br>
solvable/burnside_app.vo (real: 11.70, user: 11.58, sys: 0.11, mem: 655668 ko)</br>
field/closed_field.vo (real: 11.67, user: 11.52, sys: 0.15, mem: 862112 ko)</br>
algebra/poly.vo (real: 11.52, user: 11.45, sys: 0.05, mem: 761848 ko)</br>
algebra/mxalgebra.vo (real: 11.18, user: 11.05, sys: 0.13, mem: 758520 ko)</br>
algebra/interval.vo (real: 10.79, user: 10.69, sys: 0.10, mem: 854860 ko)</br>
field/algnum.vo (real: 10.58, user: 10.47, sys: 0.11, mem: 833556 ko)</br>
algebra/vector.vo (real: 10.05, user: 9.90, sys: 0.14, mem: 808672 ko)</br>
character/vcharacter.vo (real: 9.95, user: 9.85, sys: 0.10, mem: 827120 ko)</br>
algebra/countalg.vo (real: 9.93, user: 9.84, sys: 0.09, mem: 661232 ko)</br>
character/integral_char.vo (real: 9.72, user: 9.62, sys: 0.10, mem: 833784 ko)</br>
field/falgebra.vo (real: 9.62, user: 9.42, sys: 0.20, mem: 797616 ko)</br>
field/qfpoly.vo (real: 9.16, user: 9.03, sys: 0.10, mem: 809280 ko)</br>
solvable/hall.vo (real: 9.12, user: 9.03, sys: 0.07, mem: 609768 ko)</br>
solvable/maximal.vo (real: 8.76, user: 8.66, sys: 0.10, mem: 625260 ko)</br>
algebra/polydiv.vo (real: 8.71, user: 8.62, sys: 0.09, mem: 603308 ko)</br>
fingroup/gproduct.vo (real: 8.69, user: 8.64, sys: 0.04, mem: 562104 ko)</br>
algebra/rat.vo (real: 8.61, user: 8.54, sys: 0.07, mem: 753604 ko)</br>
field/separable.vo (real: 8.57, user: 8.44, sys: 0.13, mem: 699928 ko)</br>
algebra/ssrint.vo (real: 8.57, user: 8.36, sys: 0.20, mem: 765932 ko)</br>
algebra/qpoly.vo (real: 8.43, user: 8.32, sys: 0.11, mem: 759356 ko)</br>
character/mxabelem.vo (real: 8.06, user: 7.91, sys: 0.13, mem: 685932 ko)</br>
algebra/ring_quotient.vo (real: 7.73, user: 7.65, sys: 0.08, mem: 639152 ko)</br>
solvable/abelian.vo (real: 7.71, user: 7.63, sys: 0.08, mem: 618856 ko)</br>
fingroup/action.vo (real: 6.63, user: 6.56, sys: 0.06, mem: 538340 ko)</br>
algebra/intdiv.vo (real: 6.54, user: 6.42, sys: 0.10, mem: 731932 ko)</br>
fingroup/fingroup.vo (real: 5.12, user: 5.06, sys: 0.06, mem: 552380 ko)</br>
solvable/finmodule.vo (real: 5.02, user: 4.92, sys: 0.10, mem: 591008 ko)</br>
solvable/alt.vo (real: 5.01, user: 4.91, sys: 0.10, mem: 569912 ko)</br>
solvable/center.vo (real: 4.74, user: 4.66, sys: 0.08, mem: 568172 ko)</br>
fingroup/morphism.vo (real: 4.46, user: 4.40, sys: 0.06, mem: 489816 ko)</br>
ssreflect/seq.vo (real: 4.19, user: 4.14, sys: 0.05, mem: 524476 ko)</br>
ssreflect/bigop.vo (real: 4.14, user: 4.03, sys: 0.11, mem: 538268 ko)</br>
solvable/pgroup.vo (real: 3.95, user: 3.85, sys: 0.10, mem: 570328 ko)</br>
algebra/polyXY.vo (real: 3.95, user: 3.89, sys: 0.04, mem: 635160 ko)</br>
ssreflect/finset.vo (real: 3.89, user: 3.80, sys: 0.09, mem: 515296 ko)</br>
algebra/zmodp.vo (real: 3.83, user: 3.72, sys: 0.10, mem: 587512 ko)</br>
solvable/cyclic.vo (real: 3.70, user: 3.64, sys: 0.05, mem: 568604 ko)</br>
solvable/jordanholder.vo (real: 3.68, user: 3.62, sys: 0.06, mem: 556812 ko)</br>
solvable/frobenius.vo (real: 3.66, user: 3.60, sys: 0.06, mem: 570376 ko)</br>
field/cyclotomic.vo (real: 3.66, user: 3.53, sys: 0.12, mem: 709736 ko)</br>
algebra/archimedean.vo (real: 3.64, user: 3.54, sys: 0.09, mem: 647284 ko)</br>
ssreflect/fintype.vo (real: 3.33, user: 3.23, sys: 0.10, mem: 518960 ko)</br>
fingroup/quotient.vo (real: 3.30, user: 3.25, sys: 0.04, mem: 486052 ko)</br>
algebra/fraction.vo (real: 3.30, user: 3.20, sys: 0.10, mem: 560532 ko)</br>
all/all.vo (real: 3.20, user: 3.11, sys: 0.09, mem: 764712 ko)</br>
solvable/gseries.vo (real: 2.96, user: 2.91, sys: 0.05, mem: 554400 ko)</br>
solvable/sylow.vo (real: 2.76, user: 2.67, sys: 0.09, mem: 558056 ko)</br>
solvable/nilpotent.vo (real: 2.55, user: 2.48, sys: 0.07, mem: 556056 ko)</br>
ssreflect/prime.vo (real: 2.40, user: 2.37, sys: 0.03, mem: 472652 ko)</br>
ssreflect/choice.vo (real: 2.03, user: 2.01, sys: 0.02, mem: 472876 ko)</br>
fingroup/perm.vo (real: 1.98, user: 1.92, sys: 0.06, mem: 483156 ko)</br>
fingroup/automorphism.vo (real: 1.96, user: 1.85, sys: 0.10, mem: 469468 ko)</br>
algebra/all_algebra.vo (real: 1.94, user: 1.86, sys: 0.08, mem: 674764 ko)</br>
ssreflect/path.vo (real: 1.88, user: 1.78, sys: 0.10, mem: 455600 ko)</br>
solvable/gfunctor.vo (real: 1.78, user: 1.73, sys: 0.05, mem: 480088 ko)</br>
solvable/primitive_action.vo (real: 1.65, user: 1.59, sys: 0.06, mem: 553724 ko)</br>
ssreflect/fingraph.vo (real: 1.48, user: 1.37, sys: 0.10, mem: 454872 ko)</br>
ssreflect/ssrnat.vo (real: 1.44, user: 1.40, sys: 0.04, mem: 461556 ko)</br>
ssreflect/binomial.vo (real: 1.42, user: 1.36, sys: 0.06, mem: 472696 ko)</br>
ssreflect/generic_quotient.vo (real: 1.40, user: 1.37, sys: 0.03, mem: 476800 ko)</br>
character/all_character.vo (real: 1.36, user: 1.27, sys: 0.09, mem: 721776 ko)</br>
field/all_field.vo (real: 1.24, user: 1.14, sys: 0.10, mem: 697456 ko)</br>
ssreflect/all_ssreflect.vo (real: 1.20, user: 1.14, sys: 0.05, mem: 517524 ko)</br>
solvable/commutator.vo (real: 1.16, user: 1.10, sys: 0.06, mem: 479200 ko)</br>
ssreflect/tuple.vo (real: 1.15, user: 1.06, sys: 0.08, mem: 473096 ko)</br>
ssreflect/finfun.vo (real: 1.10, user: 1.05, sys: 0.05, mem: 462728 ko)</br>
ssreflect/eqtype.vo (real: 1.06, user: 1.01, sys: 0.05, mem: 449804 ko)</br>
ssreflect/div.vo (real: 1.02, user: 1.00, sys: 0.02, mem: 447784 ko)</br>
solvable/all_solvable.vo (real: 0.88, user: 0.83, sys: 0.04, mem: 609436 ko)</br>
fingroup/presentation.vo (real: 0.54, user: 0.48, sys: 0.06, mem: 467900 ko)</br>
ssreflect/ssrAC.vo (real: 0.40, user: 0.37, sys: 0.02, mem: 448860 ko)</br>
fingroup/all_fingroup.vo (real: 0.39, user: 0.24, sys: 0.15, mem: 465316 ko)</br>
ssreflect/ssrbool.vo (real: 0.08, user: 0.06, sys: 0.01, mem: 142060 ko)</br>
ssreflect/ssrfun.vo (real: 0.06, user: 0.05, sys: 0.01, mem: 113008 ko)</br>
ssreflect/ssreflect.vo (real: 0.05, user: 0.04, sys: 0.01, mem: 86328 ko)</br>
ssreflect/ssrnotations.vo (real: 0.04, user: 0.02, sys: 0.02, mem: 74752 ko)</br>
ssreflect/ssrmatching.vo (real: 0.04, user: 0.02, sys: 0.02, mem: 72424 ko)
</details>
<details><summary>Make the order hierarchy symmetric w.r.t. dual: 14:26.11 (1368972ko)</summary>
857.16user 8.86system 14:26.11elapsed 99%CPU (0avgtext+0avgdata 1368972maxresident)k</br>
ssreflect/order.vo (real: 97.39, user: 97.21, sys: 0.16, mem: 1335112 ko)</br>
algebra/ssralg.vo (real: 59.16, user: 58.93, sys: 0.23, mem: 1353428 ko)</br>
algebra/ssrnum.vo (real: 56.76, user: 56.55, sys: 0.20, mem: 1164020 ko)</br>
algebra/matrix.vo (real: 33.87, user: 33.67, sys: 0.19, mem: 1231144 ko)</br>
character/mxrepresentation.vo (real: 28.07, user: 28.00, sys: 0.06, mem: 1006348 ko)</br>
field/algebraics_fundamentals.vo (real: 26.13, user: 25.89, sys: 0.23, mem: 1368972 ko)</br>
solvable/extremal.vo (real: 25.75, user: 25.61, sys: 0.14, mem: 858084 ko)</br>
algebra/finalg.vo (real: 25.70, user: 25.55, sys: 0.13, mem: 901480 ko)</br>
field/galois.vo (real: 22.17, user: 22.12, sys: 0.04, mem: 927288 ko)</br>
field/finfield.vo (real: 20.48, user: 20.31, sys: 0.17, mem: 1027396 ko)</br>
character/character.vo (real: 20.00, user: 19.88, sys: 0.11, mem: 966064 ko)</br>
character/classfun.vo (real: 19.55, user: 19.37, sys: 0.17, mem: 1078428 ko)</br>
field/algC.vo (real: 17.58, user: 17.41, sys: 0.17, mem: 1032176 ko)</br>
solvable/extraspecial.vo (real: 17.46, user: 17.32, sys: 0.12, mem: 777896 ko)</br>
field/fieldext.vo (real: 17.15, user: 17.06, sys: 0.09, mem: 970872 ko)</br>
algebra/mxpoly.vo (real: 13.37, user: 13.28, sys: 0.07, mem: 765420 ko)</br>
character/inertia.vo (real: 12.84, user: 12.72, sys: 0.11, mem: 855116 ko)</br>
solvable/burnside_app.vo (real: 11.88, user: 11.76, sys: 0.12, mem: 657644 ko)</br>
field/closed_field.vo (real: 11.78, user: 11.65, sys: 0.12, mem: 880680 ko)</br>
algebra/poly.vo (real: 11.61, user: 11.53, sys: 0.08, mem: 762936 ko)</br>
algebra/interval.vo (real: 11.38, user: 11.27, sys: 0.08, mem: 867056 ko)</br>
field/algnum.vo (real: 10.85, user: 10.70, sys: 0.14, mem: 839016 ko)</br>
algebra/mxalgebra.vo (real: 10.45, user: 10.39, sys: 0.04, mem: 771192 ko)</br>
algebra/countalg.vo (real: 9.91, user: 9.82, sys: 0.08, mem: 661044 ko)</br>
algebra/vector.vo (real: 9.87, user: 9.80, sys: 0.06, mem: 810488 ko)</br>
character/integral_char.vo (real: 9.69, user: 9.60, sys: 0.09, mem: 833744 ko)</br>
field/falgebra.vo (real: 9.59, user: 9.47, sys: 0.11, mem: 786420 ko)</br>
character/vcharacter.vo (real: 9.58, user: 9.41, sys: 0.16, mem: 827984 ko)</br>
field/qfpoly.vo (real: 9.42, user: 9.32, sys: 0.10, mem: 803088 ko)</br>
solvable/hall.vo (real: 9.21, user: 9.12, sys: 0.07, mem: 609844 ko)</br>
fingroup/gproduct.vo (real: 8.90, user: 8.80, sys: 0.09, mem: 562160 ko)</br>
solvable/maximal.vo (real: 8.85, user: 8.79, sys: 0.06, mem: 623900 ko)</br>
algebra/rat.vo (real: 8.79, user: 8.68, sys: 0.10, mem: 764840 ko)</br>
field/separable.vo (real: 8.62, user: 8.52, sys: 0.07, mem: 699784 ko)</br>
algebra/qpoly.vo (real: 8.38, user: 8.29, sys: 0.09, mem: 754672 ko)</br>
algebra/polydiv.vo (real: 8.24, user: 8.11, sys: 0.12, mem: 603680 ko)</br>
solvable/abelian.vo (real: 8.21, user: 8.11, sys: 0.10, mem: 618664 ko)</br>
character/mxabelem.vo (real: 8.09, user: 7.96, sys: 0.13, mem: 692356 ko)</br>
algebra/ssrint.vo (real: 8.02, user: 7.94, sys: 0.08, mem: 754520 ko)</br>
algebra/ring_quotient.vo (real: 7.63, user: 7.55, sys: 0.08, mem: 639672 ko)</br>
algebra/intdiv.vo (real: 6.48, user: 6.38, sys: 0.10, mem: 732072 ko)</br>
fingroup/action.vo (real: 6.06, user: 6.02, sys: 0.04, mem: 538296 ko)</br>
fingroup/fingroup.vo (real: 5.08, user: 5.01, sys: 0.07, mem: 550540 ko)</br>
solvable/finmodule.vo (real: 4.90, user: 4.85, sys: 0.05, mem: 594560 ko)</br>
solvable/center.vo (real: 4.70, user: 4.62, sys: 0.08, mem: 566040 ko)</br>
solvable/alt.vo (real: 4.66, user: 4.61, sys: 0.05, mem: 569216 ko)</br>
ssreflect/seq.vo (real: 4.34, user: 4.24, sys: 0.10, mem: 524600 ko)</br>
ssreflect/bigop.vo (real: 4.14, user: 4.07, sys: 0.06, mem: 539052 ko)</br>
fingroup/morphism.vo (real: 4.01, user: 3.93, sys: 0.08, mem: 490436 ko)</br>
ssreflect/finset.vo (real: 3.89, user: 3.82, sys: 0.07, mem: 514660 ko)</br>
solvable/pgroup.vo (real: 3.81, user: 3.69, sys: 0.11, mem: 569612 ko)</br>
algebra/polyXY.vo (real: 3.79, user: 3.71, sys: 0.08, mem: 632888 ko)</br>
algebra/archimedean.vo (real: 3.74, user: 3.66, sys: 0.08, mem: 648792 ko)</br>
solvable/jordanholder.vo (real: 3.69, user: 3.59, sys: 0.09, mem: 557364 ko)</br>
solvable/cyclic.vo (real: 3.69, user: 3.60, sys: 0.08, mem: 569500 ko)</br>
solvable/frobenius.vo (real: 3.63, user: 3.53, sys: 0.09, mem: 570260 ko)</br>
algebra/zmodp.vo (real: 3.60, user: 3.53, sys: 0.07, mem: 587420 ko)</br>
field/cyclotomic.vo (real: 3.38, user: 3.30, sys: 0.07, mem: 711936 ko)</br>
all/all.vo (real: 3.38, user: 3.31, sys: 0.07, mem: 767356 ko)</br>
ssreflect/fintype.vo (real: 3.32, user: 3.23, sys: 0.09, mem: 518668 ko)</br>
algebra/fraction.vo (real: 3.30, user: 3.26, sys: 0.04, mem: 560552 ko)</br>
fingroup/quotient.vo (real: 3.17, user: 3.07, sys: 0.09, mem: 485288 ko)</br>
solvable/gseries.vo (real: 2.95, user: 2.87, sys: 0.07, mem: 557700 ko)</br>
solvable/sylow.vo (real: 2.76, user: 2.68, sys: 0.08, mem: 560436 ko)</br>
solvable/nilpotent.vo (real: 2.57, user: 2.49, sys: 0.08, mem: 555668 ko)</br>
ssreflect/prime.vo (real: 2.41, user: 2.32, sys: 0.08, mem: 470536 ko)</br>
ssreflect/choice.vo (real: 2.05, user: 1.96, sys: 0.08, mem: 471548 ko)</br>
solvable/primitive_action.vo (real: 1.94, user: 1.84, sys: 0.10, mem: 553644 ko)</br>
ssreflect/path.vo (real: 1.89, user: 1.86, sys: 0.03, mem: 459556 ko)</br>
fingroup/perm.vo (real: 1.89, user: 1.79, sys: 0.10, mem: 481960 ko)</br>
algebra/all_algebra.vo (real: 1.88, user: 1.78, sys: 0.10, mem: 676012 ko)</br>
fingroup/automorphism.vo (real: 1.85, user: 1.76, sys: 0.09, mem: 471424 ko)</br>
solvable/gfunctor.vo (real: 1.80, user: 1.73, sys: 0.07, mem: 479712 ko)</br>
ssreflect/ssrnat.vo (real: 1.53, user: 1.46, sys: 0.07, mem: 464744 ko)</br>
ssreflect/fingraph.vo (real: 1.49, user: 1.41, sys: 0.07, mem: 455056 ko)</br>
ssreflect/generic_quotient.vo (real: 1.44, user: 1.37, sys: 0.06, mem: 477012 ko)</br>
ssreflect/binomial.vo (real: 1.42, user: 1.36, sys: 0.06, mem: 468340 ko)</br>
character/all_character.vo (real: 1.37, user: 1.25, sys: 0.12, mem: 720024 ko)</br>
field/all_field.vo (real: 1.36, user: 1.26, sys: 0.09, mem: 705072 ko)</br>
ssreflect/all_ssreflect.vo (real: 1.21, user: 1.12, sys: 0.09, mem: 521784 ko)</br>
ssreflect/tuple.vo (real: 1.14, user: 1.11, sys: 0.03, mem: 473316 ko)</br>
solvable/commutator.vo (real: 1.13, user: 1.06, sys: 0.06, mem: 479576 ko)</br>
ssreflect/eqtype.vo (real: 1.11, user: 1.01, sys: 0.10, mem: 449964 ko)</br>
ssreflect/finfun.vo (real: 1.10, user: 1.08, sys: 0.02, mem: 462796 ko)</br>
ssreflect/div.vo (real: 1.04, user: 0.99, sys: 0.05, mem: 447456 ko)</br>
solvable/all_solvable.vo (real: 0.91, user: 0.80, sys: 0.10, mem: 604824 ko)</br>
fingroup/presentation.vo (real: 0.56, user: 0.50, sys: 0.06, mem: 467332 ko)</br>
ssreflect/ssrAC.vo (real: 0.40, user: 0.35, sys: 0.04, mem: 448612 ko)</br>
fingroup/all_fingroup.vo (real: 0.37, user: 0.29, sys: 0.08, mem: 465240 ko)</br>
ssreflect/ssrbool.vo (real: 0.08, user: 0.06, sys: 0.02, mem: 140752 ko)</br>
ssreflect/ssrmatching.vo (real: 0.06, user: 0.03, sys: 0.03, mem: 72896 ko)</br>
ssreflect/ssrfun.vo (real: 0.06, user: 0.02, sys: 0.04, mem: 111704 ko)</br>
ssreflect/ssreflect.vo (real: 0.05, user: 0.01, sys: 0.04, mem: 85672 ko)</br>
ssreflect/ssrnotations.vo (real: 0.04, user: 0.02, sys: 0.02, mem: 75592 ko)
</details>
<details><summary>Add missing top/bottom variants to the hierarchy of finite order structures: 14:42.53 (1467572ko)</summary>
873.18user 9.22system 14:42.53elapsed 99%CPU (0avgtext+0avgdata 1467572maxresident)k</br>
ssreflect/order.vo (real: 108.68, user: 108.45, sys: 0.22, mem: 1467572 ko)</br>
algebra/ssrnum.vo (real: 59.22, user: 59.01, sys: 0.20, mem: 1181244 ko)</br>
algebra/ssralg.vo (real: 59.21, user: 59.00, sys: 0.19, mem: 1353008 ko)</br>
algebra/matrix.vo (real: 34.78, user: 34.53, sys: 0.24, mem: 1222556 ko)</br>
character/mxrepresentation.vo (real: 28.52, user: 28.35, sys: 0.16, mem: 1017508 ko)</br>
field/algebraics_fundamentals.vo (real: 26.33, user: 26.16, sys: 0.17, mem: 1401440 ko)</br>
solvable/extremal.vo (real: 25.87, user: 25.73, sys: 0.13, mem: 858588 ko)</br>
algebra/finalg.vo (real: 25.67, user: 25.53, sys: 0.13, mem: 901264 ko)</br>
field/galois.vo (real: 22.22, user: 22.11, sys: 0.09, mem: 905120 ko)</br>
field/finfield.vo (real: 20.34, user: 20.11, sys: 0.23, mem: 1048876 ko)</br>
character/classfun.vo (real: 19.89, user: 19.66, sys: 0.20, mem: 1081632 ko)</br>
character/character.vo (real: 19.27, user: 19.10, sys: 0.14, mem: 977764 ko)</br>
field/algC.vo (real: 17.87, user: 17.74, sys: 0.13, mem: 1035696 ko)</br>
solvable/extraspecial.vo (real: 17.54, user: 17.36, sys: 0.15, mem: 782708 ko)</br>
field/fieldext.vo (real: 17.47, user: 17.25, sys: 0.20, mem: 1008028 ko)</br>
algebra/mxpoly.vo (real: 13.32, user: 13.21, sys: 0.11, mem: 774300 ko)</br>
character/inertia.vo (real: 12.99, user: 12.89, sys: 0.09, mem: 855568 ko)</br>
algebra/interval.vo (real: 12.11, user: 11.95, sys: 0.15, mem: 891556 ko)</br>
solvable/burnside_app.vo (real: 11.68, user: 11.57, sys: 0.10, mem: 657956 ko)</br>
field/closed_field.vo (real: 11.58, user: 11.46, sys: 0.12, mem: 916084 ko)</br>
algebra/poly.vo (real: 11.53, user: 11.46, sys: 0.07, mem: 765928 ko)</br>
field/algnum.vo (real: 10.69, user: 10.56, sys: 0.13, mem: 843120 ko)</br>
algebra/mxalgebra.vo (real: 10.55, user: 10.48, sys: 0.07, mem: 773000 ko)</br>
algebra/countalg.vo (real: 9.94, user: 9.87, sys: 0.05, mem: 659928 ko)</br>
character/integral_char.vo (real: 9.82, user: 9.66, sys: 0.15, mem: 838684 ko)</br>
algebra/vector.vo (real: 9.72, user: 9.63, sys: 0.08, mem: 789676 ko)</br>
character/vcharacter.vo (real: 9.65, user: 9.55, sys: 0.10, mem: 833832 ko)</br>
field/falgebra.vo (real: 9.58, user: 9.43, sys: 0.14, mem: 794956 ko)</br>
field/qfpoly.vo (real: 9.23, user: 9.10, sys: 0.11, mem: 811660 ko)</br>
solvable/hall.vo (real: 9.15, user: 9.08, sys: 0.06, mem: 609600 ko)</br>
algebra/rat.vo (real: 8.89, user: 8.79, sys: 0.09, mem: 776872 ko)</br>
solvable/maximal.vo (real: 8.87, user: 8.78, sys: 0.08, mem: 624672 ko)</br>
fingroup/gproduct.vo (real: 8.63, user: 8.56, sys: 0.07, mem: 562364 ko)</br>
field/separable.vo (real: 8.56, user: 8.46, sys: 0.10, mem: 704220 ko)</br>
solvable/abelian.vo (real: 8.45, user: 8.36, sys: 0.09, mem: 621608 ko)</br>
algebra/polydiv.vo (real: 8.26, user: 8.21, sys: 0.05, mem: 607696 ko)</br>
character/mxabelem.vo (real: 8.07, user: 7.96, sys: 0.11, mem: 692820 ko)</br>
algebra/qpoly.vo (real: 8.07, user: 7.98, sys: 0.08, mem: 761616 ko)</br>
algebra/ring_quotient.vo (real: 8.06, user: 7.95, sys: 0.11, mem: 639696 ko)</br>
algebra/ssrint.vo (real: 7.96, user: 7.86, sys: 0.09, mem: 771892 ko)</br>
algebra/intdiv.vo (real: 6.74, user: 6.64, sys: 0.09, mem: 735004 ko)</br>
fingroup/action.vo (real: 6.08, user: 6.01, sys: 0.07, mem: 537104 ko)</br>
fingroup/fingroup.vo (real: 5.17, user: 5.07, sys: 0.10, mem: 547608 ko)</br>
solvable/alt.vo (real: 5.10, user: 4.94, sys: 0.16, mem: 569036 ko)</br>
solvable/finmodule.vo (real: 4.88, user: 4.81, sys: 0.07, mem: 589624 ko)</br>
solvable/center.vo (real: 4.72, user: 4.62, sys: 0.10, mem: 566612 ko)</br>
ssreflect/bigop.vo (real: 4.14, user: 4.05, sys: 0.09, mem: 539756 ko)</br>
ssreflect/seq.vo (real: 4.13, user: 4.05, sys: 0.08, mem: 525540 ko)</br>
fingroup/morphism.vo (real: 4.03, user: 3.98, sys: 0.05, mem: 494668 ko)</br>
solvable/frobenius.vo (real: 3.99, user: 3.94, sys: 0.04, mem: 569856 ko)</br>
ssreflect/finset.vo (real: 3.89, user: 3.80, sys: 0.08, mem: 517880 ko)</br>
solvable/pgroup.vo (real: 3.82, user: 3.72, sys: 0.10, mem: 569436 ko)</br>
algebra/archimedean.vo (real: 3.77, user: 3.63, sys: 0.12, mem: 656840 ko)</br>
algebra/polyXY.vo (real: 3.76, user: 3.69, sys: 0.06, mem: 637760 ko)</br>
solvable/cyclic.vo (real: 3.67, user: 3.59, sys: 0.07, mem: 568064 ko)</br>
solvable/jordanholder.vo (real: 3.63, user: 3.54, sys: 0.09, mem: 559172 ko)</br>
algebra/zmodp.vo (real: 3.62, user: 3.58, sys: 0.04, mem: 587984 ko)</br>
field/cyclotomic.vo (real: 3.46, user: 3.33, sys: 0.13, mem: 716520 ko)</br>
ssreflect/fintype.vo (real: 3.33, user: 3.20, sys: 0.12, mem: 517856 ko)</br>
all/all.vo (real: 3.27, user: 3.16, sys: 0.11, mem: 779244 ko)</br>
algebra/fraction.vo (real: 3.22, user: 3.09, sys: 0.13, mem: 561368 ko)</br>
fingroup/quotient.vo (real: 3.14, user: 3.08, sys: 0.06, mem: 484972 ko)</br>
solvable/gseries.vo (real: 2.98, user: 2.92, sys: 0.05, mem: 553048 ko)</br>
solvable/sylow.vo (real: 2.79, user: 2.68, sys: 0.11, mem: 559904 ko)</br>
solvable/nilpotent.vo (real: 2.50, user: 2.46, sys: 0.04, mem: 556240 ko)</br>
ssreflect/prime.vo (real: 2.40, user: 2.35, sys: 0.04, mem: 471156 ko)</br>
ssreflect/choice.vo (real: 2.03, user: 1.96, sys: 0.06, mem: 471988 ko)</br>
fingroup/automorphism.vo (real: 1.91, user: 1.81, sys: 0.10, mem: 469888 ko)</br>
ssreflect/path.vo (real: 1.90, user: 1.85, sys: 0.04, mem: 455588 ko)</br>
fingroup/perm.vo (real: 1.88, user: 1.84, sys: 0.04, mem: 482552 ko)</br>
algebra/all_algebra.vo (real: 1.86, user: 1.79, sys: 0.07, mem: 684956 ko)</br>
solvable/primitive_action.vo (real: 1.83, user: 1.76, sys: 0.07, mem: 554108 ko)</br>
solvable/gfunctor.vo (real: 1.83, user: 1.79, sys: 0.04, mem: 478316 ko)</br>
ssreflect/generic_quotient.vo (real: 1.48, user: 1.42, sys: 0.04, mem: 475856 ko)</br>
ssreflect/ssrnat.vo (real: 1.44, user: 1.37, sys: 0.06, mem: 466976 ko)</br>
ssreflect/binomial.vo (real: 1.43, user: 1.39, sys: 0.03, mem: 468400 ko)</br>
ssreflect/fingraph.vo (real: 1.42, user: 1.34, sys: 0.08, mem: 453536 ko)</br>
character/all_character.vo (real: 1.39, user: 1.33, sys: 0.06, mem: 721308 ko)</br>
field/all_field.vo (real: 1.29, user: 1.23, sys: 0.05, mem: 707100 ko)</br>
ssreflect/all_ssreflect.vo (real: 1.21, user: 1.12, sys: 0.08, mem: 523624 ko)</br>
solvable/commutator.vo (real: 1.15, user: 1.10, sys: 0.05, mem: 484336 ko)</br>
ssreflect/tuple.vo (real: 1.14, user: 1.08, sys: 0.06, mem: 473124 ko)</br>
ssreflect/finfun.vo (real: 1.10, user: 0.99, sys: 0.11, mem: 468084 ko)</br>
ssreflect/eqtype.vo (real: 1.06, user: 1.03, sys: 0.03, mem: 449316 ko)</br>
ssreflect/div.vo (real: 1.03, user: 0.97, sys: 0.05, mem: 446456 ko)</br>
solvable/all_solvable.vo (real: 0.93, user: 0.86, sys: 0.06, mem: 607204 ko)</br>
fingroup/presentation.vo (real: 0.59, user: 0.48, sys: 0.08, mem: 467736 ko)</br>
fingroup/all_fingroup.vo (real: 0.43, user: 0.28, sys: 0.14, mem: 464572 ko)</br>
ssreflect/ssrAC.vo (real: 0.40, user: 0.37, sys: 0.03, mem: 448504 ko)</br>
ssreflect/ssrbool.vo (real: 0.08, user: 0.05, sys: 0.02, mem: 140012 ko)</br>
ssreflect/ssrfun.vo (real: 0.06, user: 0.05, sys: 0.01, mem: 112064 ko)</br>
ssreflect/ssreflect.vo (real: 0.05, user: 0.03, sys: 0.02, mem: 86292 ko)</br>
ssreflect/ssrnotations.vo (real: 0.04, user: 0.02, sys: 0.02, mem: 76060 ko)</br>
ssreflect/ssrmatching.vo (real: 0.04, user: 0.00, sys: 0.03, mem: 73484 ko)
</details>
<details><summary>Generalize some order lemmas to bPOrderType, tPOrderType, and tDistrLatticeType: 14:32.08 (1472992ko)</summary>
863.03user 8.93system 14:32.08elapsed 99%CPU (0avgtext+0avgdata 1472992maxresident)k</br>
ssreflect/order.vo (real: 108.76, user: 108.54, sys: 0.22, mem: 1472992 ko)</br>
algebra/ssralg.vo (real: 59.46, user: 59.16, sys: 0.27, mem: 1353384 ko)</br>
algebra/ssrnum.vo (real: 59.40, user: 59.27, sys: 0.11, mem: 1208888 ko)</br>
algebra/matrix.vo (real: 34.92, user: 34.67, sys: 0.24, mem: 1237708 ko)</br>
character/mxrepresentation.vo (real: 28.32, user: 28.12, sys: 0.17, mem: 1011760 ko)</br>
algebra/finalg.vo (real: 25.92, user: 25.81, sys: 0.10, mem: 905700 ko)</br>
solvable/extremal.vo (real: 25.56, user: 25.48, sys: 0.08, mem: 860064 ko)</br>
field/algebraics_fundamentals.vo (real: 25.12, user: 24.88, sys: 0.23, mem: 1379092 ko)</br>
field/galois.vo (real: 21.10, user: 20.93, sys: 0.17, mem: 903336 ko)</br>
field/finfield.vo (real: 20.39, user: 20.19, sys: 0.19, mem: 1046096 ko)</br>
character/classfun.vo (real: 19.84, user: 19.69, sys: 0.15, mem: 1087372 ko)</br>
character/character.vo (real: 19.84, user: 19.71, sys: 0.13, mem: 972328 ko)</br>
solvable/extraspecial.vo (real: 17.60, user: 17.50, sys: 0.10, mem: 780524 ko)</br>
field/algC.vo (real: 17.24, user: 17.06, sys: 0.18, mem: 1058008 ko)</br>
field/fieldext.vo (real: 16.69, user: 16.61, sys: 0.08, mem: 1010064 ko)</br>
algebra/mxpoly.vo (real: 13.59, user: 13.51, sys: 0.08, mem: 770580 ko)</br>
character/inertia.vo (real: 12.77, user: 12.59, sys: 0.17, mem: 864896 ko)</br>
algebra/poly.vo (real: 11.84, user: 11.76, sys: 0.08, mem: 765760 ko)</br>
solvable/burnside_app.vo (real: 11.41, user: 11.33, sys: 0.08, mem: 654616 ko)</br>
field/closed_field.vo (real: 11.28, user: 11.16, sys: 0.11, mem: 885236 ko)</br>
algebra/interval.vo (real: 11.09, user: 10.97, sys: 0.10, mem: 893308 ko)</br>
algebra/mxalgebra.vo (real: 10.59, user: 10.47, sys: 0.12, mem: 770744 ko)</br>
field/algnum.vo (real: 10.44, user: 10.33, sys: 0.11, mem: 841876 ko)</br>
algebra/countalg.vo (real: 9.94, user: 9.83, sys: 0.10, mem: 660520 ko)</br>
algebra/vector.vo (real: 9.74, user: 9.62, sys: 0.11, mem: 803032 ko)</br>
character/integral_char.vo (real: 9.59, user: 9.51, sys: 0.08, mem: 840200 ko)</br>
solvable/hall.vo (real: 9.47, user: 9.38, sys: 0.09, mem: 609728 ko)</br>
character/vcharacter.vo (real: 9.47, user: 9.29, sys: 0.16, mem: 832132 ko)</br>
field/qfpoly.vo (real: 9.23, user: 9.12, sys: 0.11, mem: 811660 ko)</br>
field/falgebra.vo (real: 9.22, user: 9.14, sys: 0.07, mem: 789548 ko)</br>
solvable/maximal.vo (real: 8.85, user: 8.70, sys: 0.14, mem: 624512 ko)</br>
algebra/rat.vo (real: 8.55, user: 8.42, sys: 0.12, mem: 779972 ko)</br>
algebra/polydiv.vo (real: 8.28, user: 8.13, sys: 0.15, mem: 603060 ko)</br>
field/separable.vo (real: 8.21, user: 8.14, sys: 0.06, mem: 703312 ko)</br>
algebra/qpoly.vo (real: 8.15, user: 8.03, sys: 0.11, mem: 761676 ko)</br>
solvable/abelian.vo (real: 8.05, user: 8.01, sys: 0.04, mem: 618180 ko)</br>
fingroup/gproduct.vo (real: 8.04, user: 7.96, sys: 0.07, mem: 562256 ko)</br>
algebra/ssrint.vo (real: 7.93, user: 7.81, sys: 0.11, mem: 767056 ko)</br>
character/mxabelem.vo (real: 7.88, user: 7.79, sys: 0.09, mem: 694656 ko)</br>
algebra/ring_quotient.vo (real: 7.11, user: 7.03, sys: 0.06, mem: 640488 ko)</br>
algebra/intdiv.vo (real: 6.24, user: 6.19, sys: 0.05, mem: 739780 ko)</br>
fingroup/action.vo (real: 6.07, user: 6.01, sys: 0.06, mem: 537692 ko)</br>
fingroup/fingroup.vo (real: 5.06, user: 4.89, sys: 0.16, mem: 548440 ko)</br>
solvable/alt.vo (real: 4.90, user: 4.79, sys: 0.10, mem: 569976 ko)</br>
solvable/finmodule.vo (real: 4.85, user: 4.78, sys: 0.07, mem: 589964 ko)</br>
solvable/center.vo (real: 4.50, user: 4.42, sys: 0.08, mem: 566016 ko)</br>
ssreflect/bigop.vo (real: 4.15, user: 4.05, sys: 0.10, mem: 539044 ko)</br>
ssreflect/seq.vo (real: 4.12, user: 4.07, sys: 0.05, mem: 524556 ko)</br>
fingroup/morphism.vo (real: 4.08, user: 4.05, sys: 0.03, mem: 490020 ko)</br>
ssreflect/finset.vo (real: 3.91, user: 3.83, sys: 0.07, mem: 518000 ko)</br>
algebra/polyXY.vo (real: 3.86, user: 3.78, sys: 0.07, mem: 639140 ko)</br>
solvable/frobenius.vo (real: 3.67, user: 3.61, sys: 0.06, mem: 568736 ko)</br>
solvable/pgroup.vo (real: 3.65, user: 3.58, sys: 0.05, mem: 569360 ko)</br>
solvable/jordanholder.vo (real: 3.64, user: 3.59, sys: 0.05, mem: 559196 ko)</br>
algebra/zmodp.vo (real: 3.62, user: 3.54, sys: 0.08, mem: 590992 ko)</br>
algebra/archimedean.vo (real: 3.62, user: 3.57, sys: 0.05, mem: 657492 ko)</br>
solvable/cyclic.vo (real: 3.51, user: 3.40, sys: 0.10, mem: 570724 ko)</br>
all/all.vo (real: 3.35, user: 3.21, sys: 0.14, mem: 777760 ko)</br>
ssreflect/fintype.vo (real: 3.32, user: 3.23, sys: 0.09, mem: 517968 ko)</br>
field/cyclotomic.vo (real: 3.30, user: 3.14, sys: 0.13, mem: 717120 ko)</br>
fingroup/quotient.vo (real: 3.14, user: 3.10, sys: 0.04, mem: 485028 ko)</br>
algebra/fraction.vo (real: 3.14, user: 3.04, sys: 0.10, mem: 561052 ko)</br>
solvable/gseries.vo (real: 2.79, user: 2.73, sys: 0.05, mem: 553196 ko)</br>
solvable/sylow.vo (real: 2.64, user: 2.58, sys: 0.06, mem: 557576 ko)</br>
ssreflect/prime.vo (real: 2.40, user: 2.32, sys: 0.08, mem: 470384 ko)</br>
solvable/nilpotent.vo (real: 2.40, user: 2.32, sys: 0.08, mem: 555472 ko)</br>
ssreflect/choice.vo (real: 2.04, user: 1.98, sys: 0.05, mem: 471896 ko)</br>
ssreflect/path.vo (real: 1.92, user: 1.85, sys: 0.06, mem: 457084 ko)</br>
fingroup/perm.vo (real: 1.88, user: 1.81, sys: 0.07, mem: 482784 ko)</br>
fingroup/automorphism.vo (real: 1.88, user: 1.80, sys: 0.07, mem: 470384 ko)</br>
algebra/all_algebra.vo (real: 1.80, user: 1.65, sys: 0.14, mem: 684564 ko)</br>
solvable/gfunctor.vo (real: 1.67, user: 1.59, sys: 0.08, mem: 479708 ko)</br>
solvable/primitive_action.vo (real: 1.52, user: 1.39, sys: 0.12, mem: 554704 ko)</br>
ssreflect/fingraph.vo (real: 1.48, user: 1.43, sys: 0.04, mem: 458856 ko)</br>
ssreflect/ssrnat.vo (real: 1.44, user: 1.40, sys: 0.04, mem: 466804 ko)</br>
ssreflect/binomial.vo (real: 1.42, user: 1.36, sys: 0.05, mem: 469160 ko)</br>
character/all_character.vo (real: 1.36, user: 1.30, sys: 0.06, mem: 722772 ko)</br>
ssreflect/all_ssreflect.vo (real: 1.33, user: 1.26, sys: 0.07, mem: 522160 ko)</br>
ssreflect/generic_quotient.vo (real: 1.30, user: 1.28, sys: 0.02, mem: 478332 ko)</br>
field/all_field.vo (real: 1.26, user: 1.18, sys: 0.07, mem: 704796 ko)</br>
ssreflect/tuple.vo (real: 1.14, user: 1.11, sys: 0.03, mem: 473008 ko)</br>
ssreflect/finfun.vo (real: 1.10, user: 1.02, sys: 0.08, mem: 462764 ko)</br>
ssreflect/eqtype.vo (real: 1.07, user: 0.99, sys: 0.08, mem: 449752 ko)</br>
solvable/commutator.vo (real: 1.06, user: 0.99, sys: 0.06, mem: 482500 ko)</br>
ssreflect/div.vo (real: 1.03, user: 0.98, sys: 0.05, mem: 446892 ko)</br>
solvable/all_solvable.vo (real: 0.95, user: 0.88, sys: 0.07, mem: 606176 ko)</br>
fingroup/presentation.vo (real: 0.53, user: 0.45, sys: 0.08, mem: 468468 ko)</br>
ssreflect/ssrAC.vo (real: 0.40, user: 0.36, sys: 0.03, mem: 449496 ko)</br>
fingroup/all_fingroup.vo (real: 0.36, user: 0.30, sys: 0.06, mem: 465136 ko)</br>
ssreflect/ssrbool.vo (real: 0.08, user: 0.06, sys: 0.01, mem: 141620 ko)</br>
ssreflect/ssrfun.vo (real: 0.06, user: 0.05, sys: 0.01, mem: 112360 ko)</br>
ssreflect/ssreflect.vo (real: 0.05, user: 0.03, sys: 0.02, mem: 86488 ko)</br>
ssreflect/ssrnotations.vo (real: 0.04, user: 0.01, sys: 0.03, mem: 75328 ko)</br>
ssreflect/ssrmatching.vo (real: 0.04, user: 0.01, sys: 0.02, mem: 72096 ko)
</details>
<details><summary>Add a proper type for order displays: 15:00.66 (1469436ko)</summary>
891.25user 9.39system 15:00.66elapsed 99%CPU (0avgtext+0avgdata 1469436maxresident)k</br>
ssreflect/order.vo (real: 109.21, user: 108.96, sys: 0.22, mem: 1469436 ko)</br>
algebra/ssrnum.vo (real: 59.42, user: 59.25, sys: 0.17, mem: 1184584 ko)</br>
algebra/ssralg.vo (real: 59.09, user: 58.86, sys: 0.22, mem: 1353856 ko)</br>
algebra/matrix.vo (real: 36.83, user: 36.64, sys: 0.19, mem: 1226772 ko)</br>
algebra/finalg.vo (real: 30.90, user: 30.78, sys: 0.12, mem: 900944 ko)</br>
character/mxrepresentation.vo (real: 28.09, user: 27.91, sys: 0.17, mem: 1008680 ko)</br>
field/algebraics_fundamentals.vo (real: 26.51, user: 26.32, sys: 0.19, mem: 1352276 ko)</br>
solvable/extremal.vo (real: 26.11, user: 26.00, sys: 0.11, mem: 860108 ko)</br>
field/galois.vo (real: 22.30, user: 22.18, sys: 0.12, mem: 907536 ko)</br>
field/finfield.vo (real: 20.41, user: 20.26, sys: 0.15, mem: 1068644 ko)</br>
character/character.vo (real: 20.10, user: 19.88, sys: 0.21, mem: 970976 ko)</br>
character/classfun.vo (real: 19.89, user: 19.69, sys: 0.20, mem: 1078356 ko)</br>
field/algC.vo (real: 19.25, user: 19.05, sys: 0.20, mem: 1072448 ko)</br>
solvable/extraspecial.vo (real: 17.56, user: 17.44, sys: 0.12, mem: 784496 ko)</br>
field/fieldext.vo (real: 17.29, user: 17.06, sys: 0.22, mem: 1010160 ko)</br>
algebra/mxpoly.vo (real: 14.05, user: 13.90, sys: 0.15, mem: 771348 ko)</br>
character/inertia.vo (real: 12.52, user: 12.41, sys: 0.11, mem: 864788 ko)</br>
algebra/interval.vo (real: 12.13, user: 11.97, sys: 0.16, mem: 895252 ko)</br>
field/closed_field.vo (real: 11.73, user: 11.59, sys: 0.13, mem: 888212 ko)</br>
solvable/burnside_app.vo (real: 11.70, user: 11.62, sys: 0.08, mem: 654636 ko)</br>
algebra/poly.vo (real: 11.57, user: 11.42, sys: 0.12, mem: 761732 ko)</br>
algebra/mxalgebra.vo (real: 11.31, user: 11.23, sys: 0.08, mem: 768680 ko)</br>
field/algnum.vo (real: 10.86, user: 10.69, sys: 0.17, mem: 842324 ko)</br>
algebra/polydiv.vo (real: 10.53, user: 10.37, sys: 0.16, mem: 607736 ko)</br>
algebra/vector.vo (real: 10.16, user: 10.02, sys: 0.13, mem: 796092 ko)</br>
field/falgebra.vo (real: 9.95, user: 9.91, sys: 0.04, mem: 792080 ko)</br>
algebra/countalg.vo (real: 9.94, user: 9.84, sys: 0.09, mem: 660316 ko)</br>
character/vcharacter.vo (real: 9.91, user: 9.82, sys: 0.09, mem: 832284 ko)</br>
field/qfpoly.vo (real: 9.85, user: 9.75, sys: 0.10, mem: 805464 ko)</br>
character/integral_char.vo (real: 9.54, user: 9.43, sys: 0.10, mem: 839504 ko)</br>
solvable/hall.vo (real: 9.50, user: 9.41, sys: 0.08, mem: 609552 ko)</br>
solvable/maximal.vo (real: 9.16, user: 9.09, sys: 0.06, mem: 624836 ko)</br>
algebra/rat.vo (real: 8.93, user: 8.82, sys: 0.11, mem: 780564 ko)</br>
field/separable.vo (real: 8.54, user: 8.42, sys: 0.11, mem: 702940 ko)</br>
fingroup/gproduct.vo (real: 8.52, user: 8.38, sys: 0.14, mem: 562196 ko)</br>
algebra/qpoly.vo (real: 8.44, user: 8.33, sys: 0.10, mem: 761456 ko)</br>
algebra/ssrint.vo (real: 8.29, user: 8.23, sys: 0.06, mem: 767764 ko)</br>
character/mxabelem.vo (real: 8.04, user: 7.95, sys: 0.09, mem: 694728 ko)</br>
solvable/abelian.vo (real: 7.72, user: 7.60, sys: 0.12, mem: 619604 ko)</br>
algebra/ring_quotient.vo (real: 7.40, user: 7.34, sys: 0.06, mem: 638992 ko)</br>
algebra/intdiv.vo (real: 6.54, user: 6.40, sys: 0.13, mem: 738712 ko)</br>
fingroup/action.vo (real: 6.25, user: 6.16, sys: 0.08, mem: 538968 ko)</br>
fingroup/fingroup.vo (real: 5.14, user: 5.09, sys: 0.05, mem: 547964 ko)</br>
algebra/zmodp.vo (real: 5.00, user: 4.87, sys: 0.12, mem: 589568 ko)</br>
solvable/finmodule.vo (real: 4.87, user: 4.80, sys: 0.07, mem: 594688 ko)</br>
solvable/alt.vo (real: 4.80, user: 4.73, sys: 0.07, mem: 569828 ko)</br>
solvable/center.vo (real: 4.64, user: 4.53, sys: 0.09, mem: 567324 ko)</br>
algebra/polyXY.vo (real: 4.61, user: 4.45, sys: 0.15, mem: 638392 ko)</br>
ssreflect/seq.vo (real: 4.15, user: 4.11, sys: 0.03, mem: 525784 ko)</br>
ssreflect/bigop.vo (real: 4.14, user: 4.05, sys: 0.08, mem: 539092 ko)</br>
fingroup/morphism.vo (real: 4.12, user: 4.08, sys: 0.03, mem: 491568 ko)</br>
ssreflect/finset.vo (real: 3.91, user: 3.88, sys: 0.03, mem: 514688 ko)</br>
algebra/archimedean.vo (real: 3.85, user: 3.79, sys: 0.06, mem: 658944 ko)</br>
solvable/pgroup.vo (real: 3.80, user: 3.72, sys: 0.08, mem: 569588 ko)</br>
solvable/frobenius.vo (real: 3.80, user: 3.75, sys: 0.04, mem: 570460 ko)</br>
solvable/jordanholder.vo (real: 3.69, user: 3.64, sys: 0.05, mem: 557360 ko)</br>
solvable/cyclic.vo (real: 3.66, user: 3.61, sys: 0.05, mem: 568524 ko)</br>
field/cyclotomic.vo (real: 3.53, user: 3.44, sys: 0.09, mem: 716900 ko)</br>
ssreflect/fintype.vo (real: 3.33, user: 3.20, sys: 0.13, mem: 518600 ko)</br>
algebra/fraction.vo (real: 3.31, user: 3.21, sys: 0.10, mem: 560484 ko)</br>
all/all.vo (real: 3.29, user: 3.20, sys: 0.08, mem: 780956 ko)</br>
fingroup/quotient.vo (real: 3.17, user: 3.12, sys: 0.05, mem: 486432 ko)</br>
solvable/gseries.vo (real: 2.98, user: 2.85, sys: 0.13, mem: 553872 ko)</br>
solvable/sylow.vo (real: 2.91, user: 2.82, sys: 0.08, mem: 562536 ko)</br>
solvable/nilpotent.vo (real: 2.61, user: 2.56, sys: 0.05, mem: 555756 ko)</br>
ssreflect/prime.vo (real: 2.41, user: 2.31, sys: 0.09, mem: 470768 ko)</br>
ssreflect/choice.vo (real: 2.04, user: 1.99, sys: 0.04, mem: 471608 ko)</br>
fingroup/automorphism.vo (real: 2.00, user: 1.88, sys: 0.12, mem: 471236 ko)</br>
fingroup/perm.vo (real: 1.97, user: 1.87, sys: 0.10, mem: 482640 ko)</br>
algebra/all_algebra.vo (real: 1.92, user: 1.87, sys: 0.05, mem: 686720 ko)</br>
ssreflect/fingraph.vo (real: 1.90, user: 1.76, sys: 0.14, mem: 454000 ko)</br>
ssreflect/path.vo (real: 1.89, user: 1.85, sys: 0.04, mem: 456840 ko)</br>
solvable/primitive_action.vo (real: 1.88, user: 1.83, sys: 0.05, mem: 554324 ko)</br>
solvable/gfunctor.vo (real: 1.80, user: 1.73, sys: 0.07, mem: 478520 ko)</br>
character/all_character.vo (real: 1.45, user: 1.35, sys: 0.10, mem: 722500 ko)</br>
ssreflect/ssrnat.vo (real: 1.44, user: 1.38, sys: 0.06, mem: 461628 ko)</br>
ssreflect/binomial.vo (real: 1.43, user: 1.38, sys: 0.05, mem: 468176 ko)</br>
ssreflect/generic_quotient.vo (real: 1.42, user: 1.37, sys: 0.05, mem: 476996 ko)</br>
ssreflect/all_ssreflect.vo (real: 1.36, user: 1.30, sys: 0.06, mem: 522248 ko)</br>
field/all_field.vo (real: 1.34, user: 1.27, sys: 0.07, mem: 703924 ko)</br>
solvable/commutator.vo (real: 1.16, user: 1.10, sys: 0.05, mem: 479268 ko)</br>
ssreflect/tuple.vo (real: 1.14, user: 1.07, sys: 0.07, mem: 473104 ko)</br>
ssreflect/finfun.vo (real: 1.10, user: 1.08, sys: 0.01, mem: 463664 ko)</br>
ssreflect/eqtype.vo (real: 1.07, user: 1.00, sys: 0.06, mem: 450412 ko)</br>
ssreflect/div.vo (real: 1.02, user: 0.93, sys: 0.08, mem: 446272 ko)</br>
solvable/all_solvable.vo (real: 0.94, user: 0.85, sys: 0.09, mem: 606096 ko)</br>
fingroup/presentation.vo (real: 0.56, user: 0.50, sys: 0.06, mem: 467748 ko)</br>
ssreflect/ssrAC.vo (real: 0.40, user: 0.31, sys: 0.09, mem: 451948 ko)</br>
fingroup/all_fingroup.vo (real: 0.32, user: 0.25, sys: 0.07, mem: 465228 ko)</br>
ssreflect/ssrbool.vo (real: 0.08, user: 0.05, sys: 0.03, mem: 141456 ko)</br>
ssreflect/ssrfun.vo (real: 0.06, user: 0.02, sys: 0.04, mem: 113296 ko)</br>
ssreflect/ssreflect.vo (real: 0.05, user: 0.01, sys: 0.04, mem: 86104 ko)</br>
ssreflect/ssrnotations.vo (real: 0.04, user: 0.03, sys: 0.01, mem: 74980 ko)</br>
ssreflect/ssrmatching.vo (real: 0.04, user: 0.02, sys: 0.01, mem: 73268 ko)
</details>
<details><summary>Make dual_display involutive: 14:51.45 (1468148ko)</summary>
882.61user 8.71system 14:51.45elapsed 99%CPU (0avgtext+0avgdata 1468148maxresident)k</br>
ssreflect/order.vo (real: 109.14, user: 108.86, sys: 0.26, mem: 1468148 ko)</br>
algebra/ssrnum.vo (real: 59.37, user: 59.18, sys: 0.18, mem: 1182476 ko)</br>
algebra/ssralg.vo (real: 59.17, user: 58.92, sys: 0.25, mem: 1353232 ko)</br>
algebra/matrix.vo (real: 36.35, user: 36.16, sys: 0.19, mem: 1241580 ko)</br>
character/mxrepresentation.vo (real: 27.93, user: 27.75, sys: 0.18, mem: 1007308 ko)</br>
algebra/finalg.vo (real: 26.94, user: 26.85, sys: 0.08, mem: 902020 ko)</br>
field/algebraics_fundamentals.vo (real: 26.14, user: 25.99, sys: 0.14, mem: 1350512 ko)</br>
solvable/extremal.vo (real: 25.70, user: 25.60, sys: 0.10, mem: 860424 ko)</br>
field/galois.vo (real: 22.35, user: 22.19, sys: 0.15, mem: 904368 ko)</br>
field/finfield.vo (real: 21.07, user: 20.85, sys: 0.22, mem: 1073472 ko)</br>
character/character.vo (real: 20.03, user: 19.92, sys: 0.11, mem: 966784 ko)</br>
character/classfun.vo (real: 19.72, user: 19.50, sys: 0.22, mem: 1073168 ko)</br>
field/algC.vo (real: 18.60, user: 18.49, sys: 0.11, mem: 1076804 ko)</br>
solvable/extraspecial.vo (real: 17.48, user: 17.37, sys: 0.09, mem: 784648 ko)</br>
field/fieldext.vo (real: 17.42, user: 17.30, sys: 0.12, mem: 1011908 ko)</br>
algebra/mxpoly.vo (real: 13.99, user: 13.91, sys: 0.06, mem: 769896 ko)</br>
character/inertia.vo (real: 12.86, user: 12.73, sys: 0.13, mem: 861356 ko)</br>
field/closed_field.vo (real: 12.05, user: 11.94, sys: 0.11, mem: 887152 ko)</br>
solvable/burnside_app.vo (real: 11.74, user: 11.67, sys: 0.06, mem: 655472 ko)</br>
algebra/poly.vo (real: 11.58, user: 11.45, sys: 0.11, mem: 761780 ko)</br>
algebra/interval.vo (real: 11.43, user: 11.30, sys: 0.11, mem: 893796 ko)</br>
algebra/mxalgebra.vo (real: 11.20, user: 11.10, sys: 0.10, mem: 770572 ko)</br>
field/algnum.vo (real: 10.65, user: 10.55, sys: 0.09, mem: 842508 ko)</br>
algebra/vector.vo (real: 10.17, user: 10.05, sys: 0.12, mem: 795992 ko)</br>
algebra/countalg.vo (real: 10.05, user: 9.95, sys: 0.09, mem: 660576 ko)</br>
character/integral_char.vo (real: 9.80, user: 9.68, sys: 0.11, mem: 844976 ko)</br>
field/falgebra.vo (real: 9.71, user: 9.58, sys: 0.13, mem: 796800 ko)</br>
character/vcharacter.vo (real: 9.65, user: 9.54, sys: 0.11, mem: 827700 ko)</br>
field/qfpoly.vo (real: 9.62, user: 9.53, sys: 0.08, mem: 807668 ko)</br>
solvable/hall.vo (real: 9.16, user: 9.09, sys: 0.05, mem: 609712 ko)</br>
algebra/qpoly.vo (real: 8.84, user: 8.71, sys: 0.13, mem: 761476 ko)</br>
algebra/rat.vo (real: 8.80, user: 8.71, sys: 0.09, mem: 778768 ko)</br>
solvable/maximal.vo (real: 8.78, user: 8.70, sys: 0.07, mem: 624300 ko)</br>
algebra/polydiv.vo (real: 8.69, user: 8.61, sys: 0.08, mem: 602804 ko)</br>
field/separable.vo (real: 8.64, user: 8.53, sys: 0.11, mem: 702724 ko)</br>
algebra/ssrint.vo (real: 8.60, user: 8.48, sys: 0.12, mem: 767068 ko)</br>
fingroup/gproduct.vo (real: 8.37, user: 8.29, sys: 0.08, mem: 564256 ko)</br>
character/mxabelem.vo (real: 8.11, user: 8.01, sys: 0.08, mem: 692620 ko)</br>
solvable/abelian.vo (real: 7.78, user: 7.70, sys: 0.08, mem: 619176 ko)</br>
algebra/ring_quotient.vo (real: 7.30, user: 7.24, sys: 0.04, mem: 638932 ko)</br>
fingroup/action.vo (real: 6.34, user: 6.24, sys: 0.10, mem: 538644 ko)</br>
algebra/intdiv.vo (real: 6.34, user: 6.21, sys: 0.13, mem: 739108 ko)</br>
solvable/alt.vo (real: 5.13, user: 4.94, sys: 0.19, mem: 569064 ko)</br>
fingroup/fingroup.vo (real: 5.08, user: 4.98, sys: 0.09, mem: 550348 ko)</br>
solvable/finmodule.vo (real: 4.91, user: 4.88, sys: 0.03, mem: 590028 ko)</br>
solvable/center.vo (real: 4.72, user: 4.67, sys: 0.04, mem: 566216 ko)</br>
fingroup/morphism.vo (real: 4.39, user: 4.36, sys: 0.02, mem: 491572 ko)</br>
ssreflect/seq.vo (real: 4.22, user: 4.19, sys: 0.03, mem: 524816 ko)</br>
solvable/pgroup.vo (real: 4.21, user: 4.12, sys: 0.08, mem: 570668 ko)</br>
ssreflect/bigop.vo (real: 4.15, user: 4.06, sys: 0.09, mem: 538056 ko)</br>
algebra/polyXY.vo (real: 4.10, user: 4.05, sys: 0.05, mem: 638628 ko)</br>
algebra/archimedean.vo (real: 3.97, user: 3.92, sys: 0.05, mem: 661800 ko)</br>
ssreflect/finset.vo (real: 3.90, user: 3.84, sys: 0.06, mem: 514668 ko)</br>
algebra/zmodp.vo (real: 3.79, user: 3.72, sys: 0.07, mem: 587580 ko)</br>
algebra/fraction.vo (real: 3.73, user: 3.66, sys: 0.07, mem: 560748 ko)</br>
solvable/frobenius.vo (real: 3.69, user: 3.61, sys: 0.08, mem: 572676 ko)</br>
solvable/cyclic.vo (real: 3.69, user: 3.63, sys: 0.06, mem: 569108 ko)</br>
solvable/jordanholder.vo (real: 3.68, user: 3.60, sys: 0.08, mem: 557184 ko)</br>
field/cyclotomic.vo (real: 3.38, user: 3.28, sys: 0.09, mem: 716248 ko)</br>
ssreflect/fintype.vo (real: 3.34, user: 3.27, sys: 0.07, mem: 518776 ko)</br>
fingroup/quotient.vo (real: 3.33, user: 3.27, sys: 0.06, mem: 485128 ko)</br>
all/all.vo (real: 3.24, user: 3.12, sys: 0.12, mem: 778388 ko)</br>
solvable/gseries.vo (real: 2.99, user: 2.93, sys: 0.06, mem: 553324 ko)</br>
solvable/sylow.vo (real: 2.87, user: 2.75, sys: 0.12, mem: 559256 ko)</br>
solvable/nilpotent.vo (real: 2.54, user: 2.48, sys: 0.06, mem: 557636 ko)</br>
ssreflect/prime.vo (real: 2.40, user: 2.34, sys: 0.05, mem: 470676 ko)</br>
ssreflect/choice.vo (real: 2.03, user: 1.95, sys: 0.07, mem: 474336 ko)</br>
fingroup/perm.vo (real: 1.98, user: 1.96, sys: 0.02, mem: 483000 ko)</br>
fingroup/automorphism.vo (real: 1.93, user: 1.86, sys: 0.06, mem: 470912 ko)</br>
algebra/all_algebra.vo (real: 1.92, user: 1.83, sys: 0.09, mem: 684704 ko)</br>
ssreflect/path.vo (real: 1.90, user: 1.84, sys: 0.06, mem: 456952 ko)</br>
solvable/primitive_action.vo (real: 1.81, user: 1.72, sys: 0.09, mem: 554604 ko)</br>
solvable/gfunctor.vo (real: 1.78, user: 1.72, sys: 0.06, mem: 479548 ko)</br>
ssreflect/fingraph.vo (real: 1.46, user: 1.34, sys: 0.11, mem: 455316 ko)</br>
character/all_character.vo (real: 1.46, user: 1.38, sys: 0.07, mem: 720824 ko)</br>
ssreflect/ssrnat.vo (real: 1.44, user: 1.40, sys: 0.04, mem: 461816 ko)</br>
ssreflect/binomial.vo (real: 1.42, user: 1.36, sys: 0.06, mem: 469220 ko)</br>
field/all_field.vo (real: 1.41, user: 1.28, sys: 0.13, mem: 704820 ko)</br>
ssreflect/generic_quotient.vo (real: 1.39, user: 1.34, sys: 0.04, mem: 475864 ko)</br>
ssreflect/all_ssreflect.vo (real: 1.27, user: 1.21, sys: 0.05, mem: 524304 ko)</br>
ssreflect/tuple.vo (real: 1.17, user: 1.11, sys: 0.05, mem: 476108 ko)</br>
solvable/commutator.vo (real: 1.15, user: 1.07, sys: 0.07, mem: 479056 ko)</br>
ssreflect/finfun.vo (real: 1.12, user: 1.08, sys: 0.03, mem: 462668 ko)</br>
ssreflect/eqtype.vo (real: 1.06, user: 0.97, sys: 0.09, mem: 449996 ko)</br>
ssreflect/div.vo (real: 1.03, user: 0.96, sys: 0.07, mem: 451516 ko)</br>
solvable/all_solvable.vo (real: 0.96, user: 0.86, sys: 0.10, mem: 606484 ko)</br>
fingroup/presentation.vo (real: 0.55, user: 0.47, sys: 0.08, mem: 468992 ko)</br>
ssreflect/ssrAC.vo (real: 0.40, user: 0.37, sys: 0.03, mem: 449576 ko)</br>
fingroup/all_fingroup.vo (real: 0.35, user: 0.27, sys: 0.07, mem: 466396 ko)</br>
ssreflect/ssrbool.vo (real: 0.09, user: 0.08, sys: 0.00, mem: 141152 ko)</br>
ssreflect/ssrfun.vo (real: 0.08, user: 0.07, sys: 0.01, mem: 111896 ko)</br>
ssreflect/ssreflect.vo (real: 0.05, user: 0.04, sys: 0.01, mem: 85808 ko)</br>
ssreflect/ssrnotations.vo (real: 0.04, user: 0.02, sys: 0.02, mem: 75976 ko)</br>
ssreflect/ssrmatching.vo (real: 0.04, user: 0.03, sys: 0.01, mem: 73480 ko)
</details>
<details><summary>Make dual involutive: 14:44.62 (1465372ko)</summary>
875.06user 9.35system 14:44.62elapsed 99%CPU (0avgtext+0avgdata 1465372maxresident)k</br>
ssreflect/order.vo (real: 109.23, user: 108.96, sys: 0.27, mem: 1465372 ko)</br>
algebra/ssralg.vo (real: 59.20, user: 59.02, sys: 0.16, mem: 1353012 ko)</br>
algebra/ssrnum.vo (real: 59.16, user: 58.97, sys: 0.19, mem: 1207092 ko)</br>
algebra/matrix.vo (real: 34.99, user: 34.82, sys: 0.17, mem: 1245480 ko)</br>
character/mxrepresentation.vo (real: 28.35, user: 28.16, sys: 0.16, mem: 1012796 ko)</br>
field/algebraics_fundamentals.vo (real: 26.45, user: 26.20, sys: 0.23, mem: 1355316 ko)</br>
algebra/finalg.vo (real: 25.97, user: 25.88, sys: 0.09, mem: 900980 ko)</br>
solvable/extremal.vo (real: 25.66, user: 25.51, sys: 0.13, mem: 870776 ko)</br>
field/galois.vo (real: 22.32, user: 22.21, sys: 0.11, mem: 902796 ko)</br>
field/finfield.vo (real: 20.46, user: 20.34, sys: 0.12, mem: 1059020 ko)</br>
character/classfun.vo (real: 19.89, user: 19.69, sys: 0.19, mem: 1079072 ko)</br>
character/character.vo (real: 19.29, user: 19.13, sys: 0.14, mem: 966260 ko)</br>
field/algC.vo (real: 18.13, user: 17.93, sys: 0.19, mem: 1085428 ko)</br>
solvable/extraspecial.vo (real: 17.51, user: 17.40, sys: 0.11, mem: 784748 ko)</br>
field/fieldext.vo (real: 17.45, user: 17.33, sys: 0.11, mem: 979556 ko)</br>
algebra/mxpoly.vo (real: 13.36, user: 13.24, sys: 0.10, mem: 769608 ko)</br>
character/inertia.vo (real: 12.88, user: 12.76, sys: 0.12, mem: 856036 ko)</br>
field/closed_field.vo (real: 11.80, user: 11.68, sys: 0.11, mem: 866496 ko)</br>
algebra/poly.vo (real: 11.71, user: 11.56, sys: 0.14, mem: 761404 ko)</br>
solvable/burnside_app.vo (real: 11.66, user: 11.55, sys: 0.11, mem: 655636 ko)</br>
algebra/interval.vo (real: 11.59, user: 11.50, sys: 0.09, mem: 884832 ko)</br>
field/algnum.vo (real: 10.70, user: 10.57, sys: 0.13, mem: 841452 ko)</br>
algebra/mxalgebra.vo (real: 10.55, user: 10.40, sys: 0.14, mem: 768768 ko)</br>
character/integral_char.vo (real: 10.03, user: 9.91, sys: 0.10, mem: 831404 ko)</br>
algebra/vector.vo (real: 10.03, user: 9.95, sys: 0.08, mem: 783592 ko)</br>
algebra/countalg.vo (real: 9.96, user: 9.83, sys: 0.12, mem: 663212 ko)</br>
field/falgebra.vo (real: 9.71, user: 9.54, sys: 0.16, mem: 806988 ko)</br>
character/vcharacter.vo (real: 9.67, user: 9.53, sys: 0.13, mem: 818624 ko)</br>
field/qfpoly.vo (real: 9.24, user: 9.18, sys: 0.05, mem: 813892 ko)</br>
solvable/hall.vo (real: 9.16, user: 9.08, sys: 0.07, mem: 609640 ko)</br>
algebra/rat.vo (real: 8.99, user: 8.88, sys: 0.11, mem: 768964 ko)</br>
fingroup/gproduct.vo (real: 8.85, user: 8.77, sys: 0.08, mem: 562248 ko)</br>
solvable/maximal.vo (real: 8.80, user: 8.71, sys: 0.08, mem: 624284 ko)</br>
field/separable.vo (real: 8.66, user: 8.57, sys: 0.08, mem: 707276 ko)</br>
algebra/qpoly.vo (real: 8.44, user: 8.37, sys: 0.07, mem: 769608 ko)</br>
algebra/ssrint.vo (real: 8.32, user: 8.20, sys: 0.12, mem: 762784 ko)</br>
algebra/polydiv.vo (real: 8.27, user: 8.09, sys: 0.15, mem: 603384 ko)</br>
solvable/abelian.vo (real: 8.20, user: 8.06, sys: 0.12, mem: 621592 ko)</br>
character/mxabelem.vo (real: 8.13, user: 8.00, sys: 0.12, mem: 694836 ko)</br>
algebra/ring_quotient.vo (real: 7.76, user: 7.66, sys: 0.07, mem: 643324 ko)</br>
algebra/intdiv.vo (real: 6.62, user: 6.55, sys: 0.06, mem: 735884 ko)</br>
fingroup/action.vo (real: 6.23, user: 6.13, sys: 0.10, mem: 537980 ko)</br>
fingroup/fingroup.vo (real: 5.05, user: 4.96, sys: 0.08, mem: 547292 ko)</br>
solvable/finmodule.vo (real: 4.89, user: 4.81, sys: 0.08, mem: 589896 ko)</br>
solvable/center.vo (real: 4.74, user: 4.65, sys: 0.08, mem: 565848 ko)</br>
solvable/alt.vo (real: 4.66, user: 4.59, sys: 0.06, mem: 571808 ko)</br>
ssreflect/seq.vo (real: 4.16, user: 4.09, sys: 0.07, mem: 524944 ko)</br>
ssreflect/bigop.vo (real: 4.15, user: 4.04, sys: 0.11, mem: 541764 ko)</br>
fingroup/morphism.vo (real: 4.04, user: 3.95, sys: 0.07, mem: 491772 ko)</br>
ssreflect/finset.vo (real: 3.89, user: 3.81, sys: 0.08, mem: 515752 ko)</br>
solvable/cyclic.vo (real: 3.83, user: 3.74, sys: 0.09, mem: 568524 ko)</br>
solvable/pgroup.vo (real: 3.82, user: 3.71, sys: 0.11, mem: 572436 ko)</br>
algebra/archimedean.vo (real: 3.81, user: 3.72, sys: 0.07, mem: 658424 ko)</br>
algebra/polyXY.vo (real: 3.80, user: 3.69, sys: 0.11, mem: 644672 ko)</br>
all/all.vo (real: 3.70, user: 3.56, sys: 0.13, mem: 781084 ko)</br>
solvable/jordanholder.vo (real: 3.63, user: 3.56, sys: 0.07, mem: 557300 ko)</br>
solvable/frobenius.vo (real: 3.62, user: 3.50, sys: 0.11, mem: 572476 ko)</br>
algebra/zmodp.vo (real: 3.62, user: 3.53, sys: 0.08, mem: 589028 ko)</br>
field/cyclotomic.vo (real: 3.40, user: 3.33, sys: 0.07, mem: 717120 ko)</br>
algebra/fraction.vo (real: 3.40, user: 3.31, sys: 0.09, mem: 561596 ko)</br>
ssreflect/fintype.vo (real: 3.32, user: 3.25, sys: 0.07, mem: 521324 ko)</br>
fingroup/quotient.vo (real: 3.15, user: 3.05, sys: 0.09, mem: 485964 ko)</br>
solvable/gseries.vo (real: 2.97, user: 2.87, sys: 0.09, mem: 553588 ko)</br>
solvable/sylow.vo (real: 2.73, user: 2.64, sys: 0.09, mem: 557744 ko)</br>
solvable/nilpotent.vo (real: 2.55, user: 2.49, sys: 0.05, mem: 555976 ko)</br>
ssreflect/prime.vo (real: 2.41, user: 2.34, sys: 0.07, mem: 470536 ko)</br>
ssreflect/choice.vo (real: 2.03, user: 1.95, sys: 0.07, mem: 472824 ko)</br>
fingroup/perm.vo (real: 1.97, user: 1.85, sys: 0.11, mem: 482796 ko)</br>
algebra/all_algebra.vo (real: 1.94, user: 1.82, sys: 0.11, mem: 687196 ko)</br>
ssreflect/path.vo (real: 1.88, user: 1.83, sys: 0.05, mem: 456036 ko)</br>
fingroup/automorphism.vo (real: 1.87, user: 1.83, sys: 0.04, mem: 473988 ko)</br>
solvable/gfunctor.vo (real: 1.78, user: 1.72, sys: 0.05, mem: 479852 ko)</br>
solvable/primitive_action.vo (real: 1.59, user: 1.53, sys: 0.06, mem: 553424 ko)</br>
ssreflect/fingraph.vo (real: 1.51, user: 1.43, sys: 0.07, mem: 455492 ko)</br>
ssreflect/binomial.vo (real: 1.46, user: 1.42, sys: 0.03, mem: 467704 ko)</br>
ssreflect/ssrnat.vo (real: 1.44, user: 1.36, sys: 0.07, mem: 461336 ko)</br>
ssreflect/generic_quotient.vo (real: 1.42, user: 1.37, sys: 0.04, mem: 475388 ko)</br>
character/all_character.vo (real: 1.42, user: 1.33, sys: 0.09, mem: 723044 ko)</br>
field/all_field.vo (real: 1.31, user: 1.21, sys: 0.10, mem: 704040 ko)</br>
ssreflect/all_ssreflect.vo (real: 1.28, user: 1.20, sys: 0.07, mem: 523924 ko)</br>
solvable/commutator.vo (real: 1.17, user: 1.10, sys: 0.04, mem: 480008 ko)</br>
ssreflect/tuple.vo (real: 1.14, user: 1.09, sys: 0.05, mem: 473400 ko)</br>
ssreflect/finfun.vo (real: 1.10, user: 1.07, sys: 0.03, mem: 465948 ko)</br>
ssreflect/eqtype.vo (real: 1.06, user: 0.94, sys: 0.12, mem: 451408 ko)</br>
ssreflect/div.vo (real: 1.02, user: 0.96, sys: 0.06, mem: 446508 ko)</br>
solvable/all_solvable.vo (real: 0.93, user: 0.85, sys: 0.08, mem: 608012 ko)</br>
fingroup/presentation.vo (real: 0.56, user: 0.48, sys: 0.06, mem: 467420 ko)</br>
ssreflect/ssrAC.vo (real: 0.40, user: 0.33, sys: 0.07, mem: 449924 ko)</br>
fingroup/all_fingroup.vo (real: 0.32, user: 0.24, sys: 0.07, mem: 465296 ko)</br>
ssreflect/ssrbool.vo (real: 0.08, user: 0.05, sys: 0.02, mem: 143312 ko)</br>
ssreflect/ssrfun.vo (real: 0.06, user: 0.05, sys: 0.01, mem: 113292 ko)</br>
ssreflect/ssreflect.vo (real: 0.05, user: 0.05, sys: 0.00, mem: 85576 ko)</br>
ssreflect/ssrnotations.vo (real: 0.04, user: 0.03, sys: 0.01, mem: 75144 ko)</br>
ssreflect/ssrmatching.vo (real: 0.04, user: 0.02, sys: 0.02, mem: 73012 ko)
</details>
<details><summary>Add semilattice structures: 16:17.89 (1513924ko)</summary>
968.71user 9.13system 16:17.89elapsed 99%CPU (0avgtext+0avgdata 1513924maxresident)k</br>
ssreflect/order.vo (real: 165.27, user: 164.96, sys: 0.31, mem: 1513924 ko)</br>
algebra/ssrnum.vo (real: 68.74, user: 68.61, sys: 0.11, mem: 1231672 ko)</br>
algebra/ssralg.vo (real: 59.18, user: 58.96, sys: 0.22, mem: 1351864 ko)</br>
algebra/matrix.vo (real: 39.73, user: 39.54, sys: 0.18, mem: 1342824 ko)</br>
character/mxrepresentation.vo (real: 28.97, user: 28.79, sys: 0.18, mem: 1031156 ko)</br>
field/algebraics_fundamentals.vo (real: 26.75, user: 26.53, sys: 0.21, mem: 1403604 ko)</br>
solvable/extremal.vo (real: 25.83, user: 25.71, sys: 0.12, mem: 864832 ko)</br>
algebra/finalg.vo (real: 25.78, user: 25.66, sys: 0.11, mem: 901424 ko)</br>
field/galois.vo (real: 22.73, user: 22.58, sys: 0.15, mem: 938060 ko)</br>
field/finfield.vo (real: 21.12, user: 20.86, sys: 0.24, mem: 1081472 ko)</br>
character/classfun.vo (real: 21.09, user: 20.96, sys: 0.13, mem: 1137176 ko)</br>
field/algC.vo (real: 20.30, user: 20.10, sys: 0.20, mem: 1157764 ko)</br>
character/character.vo (real: 19.93, user: 19.72, sys: 0.20, mem: 1008092 ko)</br>
field/fieldext.vo (real: 17.83, user: 17.69, sys: 0.13, mem: 1014376 ko)</br>
solvable/extraspecial.vo (real: 17.65, user: 17.56, sys: 0.07, mem: 790716 ko)</br>
algebra/mxpoly.vo (real: 14.33, user: 14.25, sys: 0.08, mem: 781844 ko)</br>
algebra/interval.vo (real: 14.03, user: 13.91, sys: 0.11, mem: 986612 ko)</br>
character/inertia.vo (real: 13.21, user: 13.09, sys: 0.11, mem: 881492 ko)</br>
field/closed_field.vo (real: 12.21, user: 12.11, sys: 0.10, mem: 897720 ko)</br>
solvable/burnside_app.vo (real: 11.85, user: 11.76, sys: 0.09, mem: 657572 ko)</br>
algebra/mxalgebra.vo (real: 11.85, user: 11.74, sys: 0.11, mem: 802544 ko)</br>
algebra/poly.vo (real: 11.54, user: 11.39, sys: 0.14, mem: 762260 ko)</br>
field/algnum.vo (real: 10.86, user: 10.76, sys: 0.10, mem: 872064 ko)</br>
algebra/vector.vo (real: 10.49, user: 10.39, sys: 0.10, mem: 819432 ko)</br>
character/vcharacter.vo (real: 10.29, user: 10.19, sys: 0.10, mem: 857376 ko)</br>
character/integral_char.vo (real: 10.23, user: 10.18, sys: 0.05, mem: 867228 ko)</br>
algebra/rat.vo (real: 10.21, user: 10.13, sys: 0.08, mem: 834368 ko)</br>
field/falgebra.vo (real: 10.05, user: 9.90, sys: 0.14, mem: 806412 ko)</br>
algebra/countalg.vo (real: 9.95, user: 9.89, sys: 0.06, mem: 661152 ko)</br>
algebra/ssrint.vo (real: 9.94, user: 9.86, sys: 0.08, mem: 827380 ko)</br>
solvable/hall.vo (real: 9.48, user: 9.38, sys: 0.09, mem: 609608 ko)</br>
field/qfpoly.vo (real: 9.43, user: 9.31, sys: 0.11, mem: 832560 ko)</br>
solvable/maximal.vo (real: 8.82, user: 8.75, sys: 0.06, mem: 623968 ko)</br>
algebra/qpoly.vo (real: 8.76, user: 8.65, sys: 0.11, mem: 777712 ko)</br>
field/separable.vo (real: 8.75, user: 8.63, sys: 0.12, mem: 713000 ko)</br>
character/mxabelem.vo (real: 8.41, user: 8.33, sys: 0.07, mem: 705204 ko)</br>
algebra/polydiv.vo (real: 8.22, user: 8.15, sys: 0.05, mem: 604448 ko)</br>
solvable/abelian.vo (real: 8.19, user: 8.12, sys: 0.07, mem: 621728 ko)</br>
fingroup/gproduct.vo (real: 8.12, user: 8.05, sys: 0.06, mem: 563952 ko)</br>
algebra/ring_quotient.vo (real: 7.36, user: 7.21, sys: 0.14, mem: 639704 ko)</br>
algebra/intdiv.vo (real: 6.92, user: 6.84, sys: 0.08, mem: 764092 ko)</br>
fingroup/action.vo (real: 6.06, user: 6.02, sys: 0.03, mem: 537840 ko)</br>
fingroup/fingroup.vo (real: 5.23, user: 5.16, sys: 0.07, mem: 548132 ko)</br>
solvable/finmodule.vo (real: 4.84, user: 4.76, sys: 0.08, mem: 591128 ko)</br>
solvable/center.vo (real: 4.73, user: 4.64, sys: 0.09, mem: 570088 ko)</br>
solvable/alt.vo (real: 4.71, user: 4.63, sys: 0.07, mem: 569916 ko)</br>
algebra/archimedean.vo (real: 4.37, user: 4.28, sys: 0.08, mem: 690648 ko)</br>
solvable/pgroup.vo (real: 4.26, user: 4.15, sys: 0.11, mem: 569712 ko)</br>
all/all.vo (real: 4.24, user: 4.08, sys: 0.14, mem: 799144 ko)</br>
ssreflect/seq.vo (real: 4.17, user: 4.08, sys: 0.09, mem: 524876 ko)</br>
ssreflect/bigop.vo (real: 4.14, user: 4.05, sys: 0.09, mem: 539764 ko)</br>
algebra/polyXY.vo (real: 4.09, user: 4.02, sys: 0.07, mem: 650804 ko)</br>
fingroup/morphism.vo (real: 3.99, user: 3.92, sys: 0.06, mem: 491468 ko)</br>
ssreflect/finset.vo (real: 3.89, user: 3.82, sys: 0.07, mem: 517840 ko)</br>
solvable/frobenius.vo (real: 3.72, user: 3.61, sys: 0.10, mem: 569404 ko)</br>
solvable/cyclic.vo (real: 3.72, user: 3.65, sys: 0.07, mem: 567584 ko)</br>
solvable/jordanholder.vo (real: 3.64, user: 3.57, sys: 0.07, mem: 559212 ko)</br>
algebra/zmodp.vo (real: 3.61, user: 3.50, sys: 0.10, mem: 586632 ko)</br>
field/cyclotomic.vo (real: 3.53, user: 3.48, sys: 0.05, mem: 729336 ko)</br>
algebra/fraction.vo (real: 3.40, user: 3.34, sys: 0.06, mem: 561808 ko)</br>
ssreflect/fintype.vo (real: 3.32, user: 3.21, sys: 0.09, mem: 519272 ko)</br>
fingroup/quotient.vo (real: 3.16, user: 3.08, sys: 0.08, mem: 485896 ko)</br>
algebra/all_algebra.vo (real: 3.09, user: 2.97, sys: 0.11, mem: 698516 ko)</br>
solvable/gseries.vo (real: 3.04, user: 2.97, sys: 0.07, mem: 552388 ko)</br>
solvable/sylow.vo (real: 3.02, user: 2.95, sys: 0.06, mem: 558248 ko)</br>
ssreflect/all_ssreflect.vo (real: 2.62, user: 2.50, sys: 0.12, mem: 535732 ko)</br>
solvable/nilpotent.vo (real: 2.53, user: 2.46, sys: 0.07, mem: 556076 ko)</br>
ssreflect/prime.vo (real: 2.39, user: 2.31, sys: 0.08, mem: 470484 ko)</br>
ssreflect/choice.vo (real: 2.04, user: 1.97, sys: 0.05, mem: 473076 ko)</br>
ssreflect/fingraph.vo (real: 1.97, user: 1.87, sys: 0.09, mem: 453896 ko)</br>
ssreflect/path.vo (real: 1.88, user: 1.83, sys: 0.05, mem: 456568 ko)</br>
fingroup/perm.vo (real: 1.88, user: 1.77, sys: 0.10, mem: 482400 ko)</br>
solvable/primitive_action.vo (real: 1.87, user: 1.83, sys: 0.04, mem: 553964 ko)</br>
fingroup/automorphism.vo (real: 1.87, user: 1.80, sys: 0.07, mem: 472184 ko)</br>
solvable/gfunctor.vo (real: 1.75, user: 1.68, sys: 0.06, mem: 479872 ko)</br>
character/all_character.vo (real: 1.53, user: 1.46, sys: 0.07, mem: 740204 ko)</br>
field/all_field.vo (real: 1.47, user: 1.39, sys: 0.08, mem: 723792 ko)</br>
ssreflect/ssrnat.vo (real: 1.46, user: 1.39, sys: 0.06, mem: 464756 ko)</br>
ssreflect/binomial.vo (real: 1.45, user: 1.40, sys: 0.05, mem: 472964 ko)</br>
ssreflect/generic_quotient.vo (real: 1.40, user: 1.33, sys: 0.07, mem: 476040 ko)</br>
solvable/all_solvable.vo (real: 1.22, user: 1.11, sys: 0.09, mem: 632408 ko)</br>
solvable/commutator.vo (real: 1.15, user: 1.09, sys: 0.06, mem: 479524 ko)</br>
ssreflect/tuple.vo (real: 1.14, user: 1.08, sys: 0.06, mem: 472612 ko)</br>
ssreflect/eqtype.vo (real: 1.12, user: 1.05, sys: 0.07, mem: 450132 ko)</br>
ssreflect/finfun.vo (real: 1.10, user: 1.04, sys: 0.06, mem: 465956 ko)</br>
ssreflect/div.vo (real: 1.03, user: 0.96, sys: 0.06, mem: 446128 ko)</br>
fingroup/presentation.vo (real: 0.54, user: 0.45, sys: 0.09, mem: 471824 ko)</br>
ssreflect/ssrAC.vo (real: 0.40, user: 0.33, sys: 0.06, mem: 449408 ko)</br>
fingroup/all_fingroup.vo (real: 0.33, user: 0.25, sys: 0.08, mem: 465268 ko)</br>
ssreflect/ssrfun.vo (real: 0.08, user: 0.04, sys: 0.04, mem: 112032 ko)</br>
ssreflect/ssrbool.vo (real: 0.08, user: 0.06, sys: 0.02, mem: 140572 ko)</br>
ssreflect/ssreflect.vo (real: 0.05, user: 0.04, sys: 0.01, mem: 86252 ko)</br>
ssreflect/ssrnotations.vo (real: 0.04, user: 0.02, sys: 0.01, mem: 75192 ko)</br>
ssreflect/ssrmatching.vo (real: 0.04, user: 0.02, sys: 0.02, mem: 73240 ko)
</details>
<details><summary>Make the complemented lattice hierarchy symmetric w.r.t. dual: 16:59.07 (1671988ko)</summary>
1009.41user 9.53system 16:59.07elapsed 99%CPU (0avgtext+0avgdata 1671988maxresident)k</br>
ssreflect/order.vo (real: 195.82, user: 195.51, sys: 0.31, mem: 1671988 ko)</br>
algebra/ssrnum.vo (real: 71.00, user: 70.77, sys: 0.22, mem: 1299216 ko)</br>
algebra/ssralg.vo (real: 59.45, user: 59.30, sys: 0.15, mem: 1353416 ko)</br>
algebra/matrix.vo (real: 40.58, user: 40.32, sys: 0.25, mem: 1320780 ko)</br>
character/mxrepresentation.vo (real: 28.33, user: 28.04, sys: 0.29, mem: 1021216 ko)</br>
field/algebraics_fundamentals.vo (real: 27.11, user: 26.91, sys: 0.19, mem: 1398496 ko)</br>
solvable/extremal.vo (real: 25.98, user: 25.83, sys: 0.15, mem: 874496 ko)</br>
algebra/finalg.vo (real: 25.81, user: 25.66, sys: 0.14, mem: 902576 ko)</br>
field/galois.vo (real: 23.76, user: 23.61, sys: 0.13, mem: 951944 ko)</br>
character/classfun.vo (real: 21.45, user: 21.26, sys: 0.18, mem: 1164168 ko)</br>
field/finfield.vo (real: 21.24, user: 21.08, sys: 0.16, mem: 1061004 ko)</br>
character/character.vo (real: 21.08, user: 20.98, sys: 0.08, mem: 1022408 ko)</br>
field/algC.vo (real: 20.97, user: 20.73, sys: 0.23, mem: 1208236 ko)</br>
field/fieldext.vo (real: 18.13, user: 18.02, sys: 0.10, mem: 988928 ko)</br>
solvable/extraspecial.vo (real: 17.66, user: 17.51, sys: 0.12, mem: 796080 ko)</br>
algebra/interval.vo (real: 14.61, user: 14.48, sys: 0.12, mem: 1017624 ko)</br>
algebra/mxpoly.vo (real: 14.39, user: 14.26, sys: 0.12, mem: 790924 ko)</br>
field/closed_field.vo (real: 13.65, user: 13.50, sys: 0.15, mem: 894740 ko)</br>
character/inertia.vo (real: 13.36, user: 13.21, sys: 0.14, mem: 892792 ko)</br>
solvable/burnside_app.vo (real: 12.17, user: 12.05, sys: 0.11, mem: 657756 ko)</br>
algebra/mxalgebra.vo (real: 11.98, user: 11.87, sys: 0.11, mem: 798200 ko)</br>
algebra/poly.vo (real: 11.53, user: 11.45, sys: 0.07, mem: 762024 ko)</br>
field/algnum.vo (real: 10.99, user: 10.92, sys: 0.06, mem: 878264 ko)</br>
character/integral_char.vo (real: 10.70, user: 10.56, sys: 0.11, mem: 867676 ko)</br>
algebra/vector.vo (real: 10.64, user: 10.57, sys: 0.06, mem: 826952 ko)</br>
algebra/rat.vo (real: 10.43, user: 10.31, sys: 0.12, mem: 832624 ko)</br>
character/vcharacter.vo (real: 10.31, user: 10.18, sys: 0.13, mem: 866768 ko)</br>
field/falgebra.vo (real: 10.21, user: 10.09, sys: 0.11, mem: 798096 ko)</br>
algebra/countalg.vo (real: 9.96, user: 9.88, sys: 0.08, mem: 660444 ko)</br>
algebra/ssrint.vo (real: 9.66, user: 9.49, sys: 0.16, mem: 833196 ko)</br>
solvable/hall.vo (real: 9.60, user: 9.53, sys: 0.06, mem: 607208 ko)</br>
field/qfpoly.vo (real: 9.55, user: 9.39, sys: 0.14, mem: 841900 ko)</br>
fingroup/gproduct.vo (real: 8.85, user: 8.78, sys: 0.06, mem: 562328 ko)</br>
algebra/qpoly.vo (real: 8.85, user: 8.76, sys: 0.08, mem: 781092 ko)</br>
solvable/maximal.vo (real: 8.84, user: 8.76, sys: 0.08, mem: 624208 ko)</br>
field/separable.vo (real: 8.84, user: 8.71, sys: 0.12, mem: 716912 ko)</br>
character/mxabelem.vo (real: 8.32, user: 8.26, sys: 0.06, mem: 710636 ko)</br>
algebra/polydiv.vo (real: 8.24, user: 8.13, sys: 0.10, mem: 604472 ko)</br>
algebra/ring_quotient.vo (real: 7.92, user: 7.82, sys: 0.10, mem: 640620 ko)</br>
solvable/abelian.vo (real: 7.82, user: 7.68, sys: 0.13, mem: 619376 ko)</br>
algebra/intdiv.vo (real: 7.48, user: 7.40, sys: 0.08, mem: 775556 ko)</br>
fingroup/action.vo (real: 6.13, user: 6.02, sys: 0.09, mem: 537112 ko)</br>
fingroup/fingroup.vo (real: 5.34, user: 5.26, sys: 0.08, mem: 550596 ko)</br>
solvable/finmodule.vo (real: 4.86, user: 4.76, sys: 0.09, mem: 591036 ko)</br>
solvable/center.vo (real: 4.79, user: 4.70, sys: 0.09, mem: 568112 ko)</br>
solvable/alt.vo (real: 4.79, user: 4.70, sys: 0.08, mem: 569624 ko)</br>
algebra/archimedean.vo (real: 4.57, user: 4.47, sys: 0.10, mem: 693632 ko)</br>
ssreflect/bigop.vo (real: 4.15, user: 4.06, sys: 0.08, mem: 539296 ko)</br>
ssreflect/seq.vo (real: 4.13, user: 4.03, sys: 0.10, mem: 524836 ko)</br>
algebra/polyXY.vo (real: 4.13, user: 4.04, sys: 0.09, mem: 654312 ko)</br>
fingroup/morphism.vo (real: 3.98, user: 3.91, sys: 0.06, mem: 490904 ko)</br>
field/cyclotomic.vo (real: 3.95, user: 3.83, sys: 0.11, mem: 732956 ko)</br>
ssreflect/finset.vo (real: 3.89, user: 3.80, sys: 0.08, mem: 515196 ko)</br>
solvable/pgroup.vo (real: 3.89, user: 3.82, sys: 0.07, mem: 569248 ko)</br>
solvable/jordanholder.vo (real: 3.70, user: 3.63, sys: 0.07, mem: 558528 ko)</br>
all/all.vo (real: 3.69, user: 3.59, sys: 0.09, mem: 815044 ko)</br>
solvable/cyclic.vo (real: 3.68, user: 3.60, sys: 0.08, mem: 568376 ko)</br>
solvable/frobenius.vo (real: 3.66, user: 3.62, sys: 0.04, mem: 568528 ko)</br>
algebra/zmodp.vo (real: 3.62, user: 3.51, sys: 0.11, mem: 588332 ko)</br>
algebra/fraction.vo (real: 3.44, user: 3.39, sys: 0.05, mem: 561168 ko)</br>
fingroup/quotient.vo (real: 3.39, user: 3.29, sys: 0.09, mem: 485820 ko)</br>
ssreflect/fintype.vo (real: 3.33, user: 3.26, sys: 0.07, mem: 518072 ko)</br>
solvable/gseries.vo (real: 2.94, user: 2.86, sys: 0.07, mem: 553068 ko)</br>
solvable/sylow.vo (real: 2.77, user: 2.71, sys: 0.05, mem: 559180 ko)</br>
solvable/nilpotent.vo (real: 2.53, user: 2.47, sys: 0.06, mem: 557076 ko)</br>
ssreflect/prime.vo (real: 2.39, user: 2.31, sys: 0.07, mem: 470480 ko)</br>
algebra/all_algebra.vo (real: 2.19, user: 2.09, sys: 0.10, mem: 699568 ko)</br>
ssreflect/choice.vo (real: 2.05, user: 1.96, sys: 0.06, mem: 473376 ko)</br>
fingroup/perm.vo (real: 1.90, user: 1.85, sys: 0.04, mem: 481744 ko)</br>
ssreflect/path.vo (real: 1.89, user: 1.81, sys: 0.07, mem: 457764 ko)</br>
ssreflect/all_ssreflect.vo (real: 1.89, user: 1.80, sys: 0.07, mem: 541436 ko)</br>
fingroup/automorphism.vo (real: 1.87, user: 1.80, sys: 0.06, mem: 469580 ko)</br>
solvable/primitive_action.vo (real: 1.83, user: 1.67, sys: 0.15, mem: 555368 ko)</br>
solvable/gfunctor.vo (real: 1.82, user: 1.74, sys: 0.08, mem: 479696 ko)</br>
character/all_character.vo (real: 1.67, user: 1.58, sys: 0.09, mem: 747052 ko)</br>
field/all_field.vo (real: 1.59, user: 1.52, sys: 0.07, mem: 730916 ko)</br>
ssreflect/fingraph.vo (real: 1.57, user: 1.53, sys: 0.04, mem: 454200 ko)</br>
ssreflect/ssrnat.vo (real: 1.44, user: 1.36, sys: 0.08, mem: 461804 ko)</br>
ssreflect/generic_quotient.vo (real: 1.44, user: 1.40, sys: 0.04, mem: 477364 ko)</br>
ssreflect/binomial.vo (real: 1.43, user: 1.39, sys: 0.04, mem: 469488 ko)</br>
solvable/all_solvable.vo (real: 1.34, user: 1.25, sys: 0.07, mem: 617608 ko)</br>
ssreflect/tuple.vo (real: 1.13, user: 1.07, sys: 0.05, mem: 476272 ko)</br>
solvable/commutator.vo (real: 1.12, user: 1.06, sys: 0.05, mem: 479956 ko)</br>
ssreflect/finfun.vo (real: 1.10, user: 1.07, sys: 0.03, mem: 466204 ko)</br>
ssreflect/eqtype.vo (real: 1.06, user: 0.99, sys: 0.07, mem: 449688 ko)</br>
ssreflect/div.vo (real: 1.02, user: 0.95, sys: 0.06, mem: 447120 ko)</br>
fingroup/presentation.vo (real: 0.57, user: 0.52, sys: 0.05, mem: 468532 ko)</br>
ssreflect/ssrAC.vo (real: 0.40, user: 0.30, sys: 0.10, mem: 448728 ko)</br>
fingroup/all_fingroup.vo (real: 0.39, user: 0.32, sys: 0.07, mem: 466548 ko)</br>
ssreflect/ssrbool.vo (real: 0.08, user: 0.06, sys: 0.02, mem: 140720 ko)</br>
ssreflect/ssrfun.vo (real: 0.06, user: 0.05, sys: 0.01, mem: 112360 ko)</br>
ssreflect/ssreflect.vo (real: 0.05, user: 0.02, sys: 0.03, mem: 86108 ko)</br>
ssreflect/ssrnotations.vo (real: 0.04, user: 0.02, sys: 0.02, mem: 75864 ko)</br>
ssreflect/ssrmatching.vo (real: 0.04, user: 0.02, sys: 0.01, mem: 72000 ko)
</details>
<details><summary>Adapt order instances to the new structures: 17:48.97 (1737424ko)</summary>
1059.68user 9.16system 17:48.97elapsed 99%CPU (0avgtext+0avgdata 1737424maxresident)k</br>
ssreflect/order.vo (real: 250.17, user: 249.90, sys: 0.25, mem: 1737424 ko)</br>
algebra/ssrnum.vo (real: 72.09, user: 71.94, sys: 0.13, mem: 1247688 ko)</br>
algebra/ssralg.vo (real: 59.20, user: 59.03, sys: 0.17, mem: 1352164 ko)</br>
algebra/matrix.vo (real: 40.27, user: 40.03, sys: 0.23, mem: 1357576 ko)</br>
character/mxrepresentation.vo (real: 28.97, user: 28.70, sys: 0.26, mem: 1032784 ko)</br>
field/algebraics_fundamentals.vo (real: 27.14, user: 26.91, sys: 0.23, mem: 1323592 ko)</br>
algebra/finalg.vo (real: 25.90, user: 25.81, sys: 0.09, mem: 900712 ko)</br>
solvable/extremal.vo (real: 25.49, user: 25.33, sys: 0.16, mem: 883380 ko)</br>
field/galois.vo (real: 23.16, user: 23.05, sys: 0.10, mem: 946232 ko)</br>
character/classfun.vo (real: 21.84, user: 21.65, sys: 0.17, mem: 1146992 ko)</br>
field/finfield.vo (real: 21.75, user: 21.58, sys: 0.15, mem: 1090036 ko)</br>
field/algC.vo (real: 20.61, user: 20.43, sys: 0.17, mem: 1205164 ko)</br>
character/character.vo (real: 20.34, user: 20.18, sys: 0.16, mem: 1009476 ko)</br>
field/fieldext.vo (real: 17.83, user: 17.69, sys: 0.13, mem: 1034864 ko)</br>
solvable/extraspecial.vo (real: 17.33, user: 17.22, sys: 0.11, mem: 803760 ko)</br>
algebra/interval.vo (real: 14.68, user: 14.50, sys: 0.17, mem: 1010532 ko)</br>
algebra/mxpoly.vo (real: 13.68, user: 13.59, sys: 0.09, mem: 797024 ko)</br>
character/inertia.vo (real: 13.52, user: 13.38, sys: 0.14, mem: 886720 ko)</br>
field/closed_field.vo (real: 12.21, user: 12.08, sys: 0.13, mem: 899732 ko)</br>
solvable/burnside_app.vo (real: 11.82, user: 11.71, sys: 0.11, mem: 655184 ko)</br>
algebra/poly.vo (real: 11.65, user: 11.52, sys: 0.13, mem: 763684 ko)</br>
algebra/mxalgebra.vo (real: 11.22, user: 11.09, sys: 0.12, mem: 801236 ko)</br>
field/algnum.vo (real: 11.06, user: 10.93, sys: 0.13, mem: 893732 ko)</br>
algebra/rat.vo (real: 10.71, user: 10.52, sys: 0.18, mem: 843572 ko)</br>
algebra/vector.vo (real: 10.63, user: 10.51, sys: 0.11, mem: 855316 ko)</br>
character/vcharacter.vo (real: 10.47, user: 10.41, sys: 0.06, mem: 878424 ko)</br>
character/integral_char.vo (real: 10.47, user: 10.29, sys: 0.18, mem: 891788 ko)</br>
field/falgebra.vo (real: 10.21, user: 10.08, sys: 0.12, mem: 832576 ko)</br>
algebra/ssrint.vo (real: 10.21, user: 10.13, sys: 0.08, mem: 863960 ko)</br>
algebra/countalg.vo (real: 10.15, user: 10.07, sys: 0.07, mem: 660876 ko)</br>
field/qfpoly.vo (real: 9.61, user: 9.54, sys: 0.04, mem: 842864 ko)</br>
field/separable.vo (real: 9.22, user: 9.16, sys: 0.06, mem: 723860 ko)</br>
solvable/hall.vo (real: 9.13, user: 9.08, sys: 0.04, mem: 609216 ko)</br>
solvable/maximal.vo (real: 8.86, user: 8.74, sys: 0.09, mem: 624700 ko)</br>
algebra/qpoly.vo (real: 8.81, user: 8.72, sys: 0.09, mem: 792284 ko)</br>
algebra/polydiv.vo (real: 8.38, user: 8.28, sys: 0.09, mem: 604336 ko)</br>
character/mxabelem.vo (real: 8.35, user: 8.19, sys: 0.15, mem: 721688 ko)</br>
fingroup/gproduct.vo (real: 7.94, user: 7.88, sys: 0.06, mem: 562088 ko)</br>
algebra/ring_quotient.vo (real: 7.81, user: 7.74, sys: 0.07, mem: 639764 ko)</br>
solvable/abelian.vo (real: 7.63, user: 7.55, sys: 0.08, mem: 621544 ko)</br>
algebra/intdiv.vo (real: 7.10, user: 7.04, sys: 0.06, mem: 785008 ko)</br>
fingroup/action.vo (real: 6.19, user: 6.10, sys: 0.09, mem: 538468 ko)</br>
solvable/alt.vo (real: 5.27, user: 5.11, sys: 0.14, mem: 569968 ko)</br>
fingroup/fingroup.vo (real: 5.25, user: 5.18, sys: 0.07, mem: 548532 ko)</br>
solvable/finmodule.vo (real: 4.90, user: 4.83, sys: 0.06, mem: 591228 ko)</br>
algebra/archimedean.vo (real: 4.71, user: 4.61, sys: 0.09, mem: 705772 ko)</br>
solvable/center.vo (real: 4.65, user: 4.61, sys: 0.04, mem: 568164 ko)</br>
ssreflect/bigop.vo (real: 4.16, user: 4.07, sys: 0.08, mem: 539348 ko)</br>
solvable/frobenius.vo (real: 4.14, user: 3.98, sys: 0.16, mem: 570808 ko)</br>
ssreflect/seq.vo (real: 4.13, user: 4.08, sys: 0.05, mem: 524664 ko)</br>
all/all.vo (real: 4.07, user: 3.97, sys: 0.10, mem: 815532 ko)</br>
fingroup/morphism.vo (real: 4.03, user: 3.97, sys: 0.06, mem: 491492 ko)</br>
algebra/polyXY.vo (real: 3.99, user: 3.94, sys: 0.05, mem: 665624 ko)</br>
ssreflect/finset.vo (real: 3.91, user: 3.81, sys: 0.10, mem: 515648 ko)</br>
field/cyclotomic.vo (real: 3.73, user: 3.69, sys: 0.04, mem: 741116 ko)</br>
solvable/pgroup.vo (real: 3.71, user: 3.63, sys: 0.07, mem: 569180 ko)</br>
algebra/zmodp.vo (real: 3.61, user: 3.53, sys: 0.08, mem: 588992 ko)</br>
solvable/cyclic.vo (real: 3.59, user: 3.52, sys: 0.06, mem: 567824 ko)</br>
solvable/jordanholder.vo (real: 3.57, user: 3.52, sys: 0.05, mem: 557024 ko)</br>
fingroup/quotient.vo (real: 3.33, user: 3.19, sys: 0.11, mem: 485976 ko)</br>
ssreflect/fintype.vo (real: 3.30, user: 3.25, sys: 0.05, mem: 518016 ko)</br>
algebra/fraction.vo (real: 3.28, user: 3.22, sys: 0.06, mem: 561328 ko)</br>
solvable/gseries.vo (real: 2.86, user: 2.77, sys: 0.09, mem: 553964 ko)</br>
solvable/sylow.vo (real: 2.71, user: 2.63, sys: 0.08, mem: 560012 ko)</br>
solvable/nilpotent.vo (real: 2.46, user: 2.39, sys: 0.07, mem: 555836 ko)</br>
ssreflect/prime.vo (real: 2.40, user: 2.31, sys: 0.09, mem: 470472 ko)</br>
algebra/all_algebra.vo (real: 2.16, user: 2.05, sys: 0.11, mem: 704736 ko)</br>
ssreflect/choice.vo (real: 2.03, user: 1.98, sys: 0.04, mem: 472212 ko)</br>
ssreflect/all_ssreflect.vo (real: 1.94, user: 1.83, sys: 0.10, mem: 552584 ko)</br>
fingroup/perm.vo (real: 1.90, user: 1.80, sys: 0.09, mem: 482904 ko)</br>
ssreflect/path.vo (real: 1.88, user: 1.82, sys: 0.06, mem: 457656 ko)</br>
fingroup/automorphism.vo (real: 1.86, user: 1.82, sys: 0.04, mem: 470908 ko)</br>
solvable/gfunctor.vo (real: 1.77, user: 1.72, sys: 0.03, mem: 479232 ko)</br>
character/all_character.vo (real: 1.66, user: 1.54, sys: 0.12, mem: 759536 ko)</br>
field/all_field.vo (real: 1.61, user: 1.52, sys: 0.09, mem: 743764 ko)</br>
solvable/primitive_action.vo (real: 1.55, user: 1.47, sys: 0.08, mem: 555212 ko)</br>
ssreflect/ssrnat.vo (real: 1.44, user: 1.39, sys: 0.05, mem: 462000 ko)</br>
ssreflect/fingraph.vo (real: 1.42, user: 1.37, sys: 0.05, mem: 454012 ko)</br>
ssreflect/binomial.vo (real: 1.41, user: 1.37, sys: 0.04, mem: 469184 ko)</br>
ssreflect/generic_quotient.vo (real: 1.36, user: 1.30, sys: 0.06, mem: 476164 ko)</br>
solvable/all_solvable.vo (real: 1.33, user: 1.26, sys: 0.07, mem: 628344 ko)</br>
ssreflect/tuple.vo (real: 1.14, user: 1.07, sys: 0.07, mem: 472744 ko)</br>
ssreflect/finfun.vo (real: 1.10, user: 1.04, sys: 0.06, mem: 463748 ko)</br>
solvable/commutator.vo (real: 1.08, user: 1.01, sys: 0.07, mem: 480652 ko)</br>
ssreflect/eqtype.vo (real: 1.06, user: 1.01, sys: 0.05, mem: 450008 ko)</br>
ssreflect/div.vo (real: 1.03, user: 0.96, sys: 0.07, mem: 446108 ko)</br>
fingroup/presentation.vo (real: 0.57, user: 0.51, sys: 0.04, mem: 468652 ko)</br>
ssreflect/ssrAC.vo (real: 0.40, user: 0.33, sys: 0.06, mem: 451856 ko)</br>
fingroup/all_fingroup.vo (real: 0.32, user: 0.25, sys: 0.07, mem: 465268 ko)</br>
ssreflect/ssrbool.vo (real: 0.08, user: 0.07, sys: 0.01, mem: 140360 ko)</br>
ssreflect/ssrfun.vo (real: 0.06, user: 0.05, sys: 0.01, mem: 113348 ko)</br>
ssreflect/ssreflect.vo (real: 0.05, user: 0.00, sys: 0.05, mem: 87084 ko)</br>
ssreflect/ssrnotations.vo (real: 0.04, user: 0.02, sys: 0.02, mem: 76364 ko)</br>
ssreflect/ssrmatching.vo (real: 0.04, user: 0.03, sys: 0.01, mem: 72808 ko)
</details>

File: mathcomp/ssreflect/order.v (hunk 4 above)
Comment (proux01) [reply mathcomp/ssreflect/order.v:4294]: By the way, it seems to me that, except maybe the last one, these lemmas don't hold for porderType (take for instance some `x` not comparable with anything in `s`).

File: mathcomp/ssreflect/order.v (hunk 26 above)
Comment (pi8027) [reply mathcomp/ssreflect/order.v]: Done.

File: mathcomp/ssreflect/order.v (hunk 28 above)
Comment (pi8027) [reply mathcomp/ssreflect/order.v]: Done.

File: mathcomp/ssreflect/order.v (hunk 29 above)
Comment (pi8027) [reply mathcomp/ssreflect/order.v]: Done.

File: mathcomp/ssreflect/order.v (hunk 30 above)
Comment (pi8027) [reply mathcomp/ssreflect/order.v]: Done.

File: mathcomp/ssreflect/order.v (hunk 31 above)
Comment (pi8027) [reply mathcomp/ssreflect/order.v]: Done.

File: mathcomp/ssreflect/order.v (hunk 4 above)
Comment (pi8027) [reply mathcomp/ssreflect/order.v:4254]: Right, but doesn't it make sense to reformulate (some of) the statements to be more generic? For example:
```
Lemma sorted_filter_gt x s :
  sorted <=%O s -> [seq y <- s | x < y] = drop (count (xpredC (> x)) s) s.
```

File: mathcomp/ssreflect/order.v (hunk 26 above)
Comment (proux01) [reply mathcomp/ssreflect/order.v]: I see two remaining (finLatticeType and finTBLatticeType)

File: mathcomp/ssreflect/order.v (hunk 4 above)
Comment (proux01) [reply mathcomp/ssreflect/order.v]: > Right, but doesn't it make sense to reformulate (some of) the statements to be more generic?

Yes (although that would require a deprecation phase to fix the name)

File: mathcomp/ssreflect/order.v (hunk 26 above)
Comment (pi8027) [reply mathcomp/ssreflect/order.v]: Fixed.

**Review by CohenCyril — APPROVED** [review]
